2129-12-07 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2129-12-6**] 02:00 PM
 MULTI LUMEN - START [**2129-12-6**] 07:00 PM
   - TTE: Mildly dilated LA.  A torn chordae at tip of the posterior
   leaflet with partial flail of the leaflet tip. Moderate MR (could be
   underestimated due to Coanda effect). normal EF.
   - CVL placed
   - started on dilt drip for afib with RVR (HR 140s), rate still high in
   the 120s-130s, so given 2.5mg IV metoprolol x1, which brought HR down
   to <100
   - given IVF boluses for sBP 80s and CVP 6-7, then CVP was up to 15 and
   pt was edematous, so stopped IVF
   - told RN to give PO metoprolol 6.25mg QID
   - sBP in the 80s overnight
   - pt asked to have Foley out at 5am on [**12-7**] for a few hours of break
   as it was irritating her
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-7**] 05:30 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Diltiazem - 7.5 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2129-12-6**] 08:06 PM
   Diltiazem - [**2129-12-6**] 08:58 PM
   Metoprolol - [**2129-12-7**] 06:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-7**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.6
   HR: 100 (95 - 133) bpm
   BP: 97/33(50) {75/24(45) - 108/56(66)} mmHg
   RR: 26 (19 - 31) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 70 kg (admission): 74.4 kg
    CVP: 9 (8 - 13)mmHg
   Total In:
                                                                  1,594 mL
                                                                    260 mL
   PO:
                                                                    450 mL
   TF:
   IVF:
                                                                  1,144 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                    355 mL
                                                                    135 mL
   Urine:
                                                                    355 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,239 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   NAD
   JVP=10cm, neck supple, RIJ in place
   Bibasilar crackles
   Irregularly irregular rhythm, normal S1, S2.  2/6 systolic murmur at
   apex when auscultating on left decubitus position
   NABS, soft/NT/ND, no masses or HSM
   WWP, 2+ UE and LE edema bilaterally
   Labs / Radiology
   282 K/uL
   10.0 g/dL
   149 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.5 mEq/L
   31 mg/dL
   92 mEq/L
   128 mEq/L
   31.1 %
   27.6 K/uL
        [image002.jpg]
                            [**2129-12-7**]  03:04 AM
   WBC
   27.6
   Hct
   31.1
   Plt
   282
   Cr
   1.2
   Glucose
   149
   Other labs:
   Differential-Neuts:84.1 %, Band:0.0 %, Lymph:10.9 %, Mono:3.9 %,
   Eos:0.7 %,
   PT / PTT / INR:14.0/52.5/1.2,
   ALT / AST:24/30, Alk Phos / T Bili:171/0.9, Albumin:2.7 g/dL, LDH:231
   IU/L,
   Lactic Acid:2.1 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   TSH:3.3
   GGT:241
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and now new afib with RVR. She continues to be
   hypotensive despite rate control now with increasing leukocytosis,
   concerning for septic shock.
   .
   # MR: patient was found to have [**Hospital1 10146**] tear at posterior leaflet of
   mitral valve, likely contributing to worsening MR.  [**Name14 (STitle) 10146**] tear is
   likely a consequence of chronic history of MVP.  MR is likely
   contributing to her afib.
   - contact [**Name (NI) 10147**] for MVR
   - be gentle on IVF to avoid flash pulmonary edema
   - would avoid pressor if MAP>50 to avoid increased afterload which
   could make MR worse
   .
   # Hypotension: Unclear etiology but this is likely a combination of
   afib with RVR, sepsis, and heart failure from severe MR (shown on TTE
   on [**2129-12-6**]).  She has WBC with significant left shift raising
   posibility of infection (sources include UTI and C diff). Hypovolemic
   shock was another possibility given her JVP was low and patient looked
   dry on exam on transfer to CCU, but currently she appears to be
   euvolemic.  TSH normal.  Pt is s/p RIJ placement on [**12-6**].  pt has
   peripheral vasodilatation on exam, indicating sepsis could play a role
   in hypotension.
   - place Swan ganz catheter, the numbers can guide us as to whether pt
   needs IABP or MVR
   - place A line
   - Treating infectious causes (see below)
   - continue to rate control Afib
   - f/u C diff
   - Cont Vanc/Zosyn until culture data back
   - follow Lactate and UOP
   - f/u Random cortisol
   - follow CVP
   - hold off on fluids now that pt appears euvolemic, will give more IVF
   if CVP <12
   .
   #. Sepsis: Patient with hypotension, tachycardia, WBC with left-shift
   and UTI at OSH suggesting sepsis. However, patient afebrile, other
   explainations for hypotension and tachycardia, UTI has been treated and
   now UA is clean and blood cultures have been negative. Concern for
   endocarditis, but negative blood cultures and RF normal.  However, ESR
   elevated at 53.  Patient with elevated alk phos and GGT, question
   whether she has biliary obstruction, leading to cholecystitis or
   cholangitis, given her significantly elevated WBC. However, blood cx
   negative so far, and pt has no abdominal pain.
   - Continue antibiotics for now (Vanc/Zosyn)
   - follow lactate and UOP  (goal 30cc/hr)
   - f/u Random cortisol
   - Daily BC
   - RUQ US today
   - consider pan-scan if pt tolerated lying flat
   - continue to trend
   - CIS
   - F/u UA & UC
   - F/u OSH micro
   .
   # RHYTHM: Afib with RVR.  In terms of etiology of afib, infection is
   one possibility.  Other etiologies include worsened MR (although LA is
   not significantly dilated).  TSH normal.
   - continue dilt drip, slowly wean down
   - continue metoprolol 12.5 QID
   - continue heparin drip for now
   .
   # PUMP: history of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema).  Repeat TTE
   here at [**Hospital1 **] showed normal EF, but given mod MR, this EF could be
   overestimated.  Patient appeared volume depleted on admission, but now
   euvolemic.
   - hold off on fluids now that pt appears euvolemic, will give more IVF
   if CVP <12
   .
   # LEUKOCYTOSIS: pt WBC climbing to 27.6 this AM.  Unclear whether this
   is from infection or other causes.  Diff showed immature myelocytes, so
   also question bone marrow abnormalities.
   - check peripheral smear today (smear in [**Hospital Ward Name 1107**] lab)
   - f/u c.diff
   - f/u all cultures
   - continue to trend CBC
   - RUQ US today
   - consider pan-scan if pt can lie flat
   .
   # Elevated alk phos and GGT:  Question whether she has biliary
   obstruction, leading to cholecystitis or cholangitis, given her
   significantly elevated WBC. However, blood cx negative so far, and pt
   has no abdominal pain.
   - RUQ US today
   - continue to trend
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations. However, MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue on aspirin for now.
   .
   # UTI: Citrobacter only resistent to macrobid, potential source
   - treatment as above
   .
   #. Hyponatremia: pt was initially intravascularly dry, so initially
   hyponatremia was mostly [**1-10**] hypovolemic.  currently euvolemic but pt
   continues to have hyponatremia, question whether this is from heart
   failure
   - continue to trend
   - hold off on fluids for now
   .
   #. Anemia: normocytic, normochromic with normal RDW. Most likely
   chronic diseases.  Fe studies are consistent with ACD.  Retic 1.5,
   indicating poor bone marrow response.
   - f/u  b12, folate
   - Trend HCT
   - check hemolysis labs again today
   .
   #. Creatinine: unknown baseline; cr 1.2, eGFR of 46 ml/min currenlty.
   Urine lytes showed evidence of pre-renal physiology, but now pt appears
   euvolemic after 1L fluid boluses yesterday.
   - continue to optimize BP
   - Trend creatinine
   .
   #Glaucoma:
   - continue home medications
   .
   #History of hypertension:
   - hold home lisinopril given pressures.
   .
   #Hypothyroidism - TSH 3.3
   - continue home levothyroxine dose.
   ICU Care
   Nutrition: regular cardiac healthy diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-12-6**] 03:00 PM
   Multi Lumen - [**2129-12-6**] 07:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:  none
   Comments:
   Communication:  Comments: Daughter (HCP) [**Name (NI) 142**] [**Name (NI) 1932**] home: [**Telephone/Fax (1) 10132**]
   and cell: [**Telephone/Fax (1) 10133**]
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   History
   83 yr old white female with history of CHF and mitral regurgitation
   secondary to MVP now transferred with increased MR [**First Name (Titles) **] [**Last Name (Titles) 10150**]
   chordae, new AF, hypotension with evidence of infection.  Originally
   treated for UTI but WBC continues to increase.
   Physical Examination
   Mild resp distress.
   CVP 12.
   Loud murmur of mitral regurgitation at apex.
   Medical Decision Making
   Will place swan.
   On dilt drip and low dose lopressor to control VR.   Will discuss with
   EP ? TEE guided cardioversion or adding amiodarone.
   If deteriorates, consider IABP.
   Antibiotic coverage for ? sepsis with urine only source to date but
   concern re endocarditis.
   CT surgery to see re ? candidacy for mitral surgery.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2129-12-7**] 13:39 ------

2129-12-08 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CXR: small bilateral effusions unchanged, new opacification in LLL,
   probably atelectatsis. upper lungs clear, cardiomegaly stable. no PTX
   - RUQ U/S: No cholecystitis or CBD dilation, does have soft tissue
   structure in portal hilum of uncertain significance
   - right IJ CVL removed, swan placed
   - left radial line placed
   - placed on dopamine for 1-2 hrs, then changed to phenylephrine
   - went to cath lab for aortic balloon pump
   - rate control attempted with amiodarone, then cardioversion
   (unsuccessful at 200, then 300 J)
   - pt spontaneously converted to sinus rhythm at 1:45am
   - Seen by CSurg: Will follow, asking for dental records and carotid u/s
   - INVASIVE VENTILATION - START [**2129-12-7**] 10:15 PM
   - ULTRASOUND - At [**2129-12-7**] 11:43 PM bilat  u/s to r/o out clot to
   right arm
   - FEVER - 101.8
F - [**2129-12-7**] 02:00 PM
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-7**] 09:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-7**] 07:17 PM
   Piperacillin - [**2129-12-8**] 12:00 AM
   Metronidazole - [**2129-12-8**] 12:56 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2129-12-7**] 06:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-8**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.8
C (98.2
   HR: 73 (73 - 155) bpm
   BP: 81/49(67) {62/36(46) - 106/60(82)} mmHg
   RR: 18 (0 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 11 (9 - 21)mmHg
   PAP: (29 mmHg) / (18 mmHg)
   CO/CI (Fick): (5.6 L/min) / (3.1 L/min/m2)
   Mixed Venous O2% Sat: 63 - 69
   Total In:
                                                                  2,132 mL
                                                                    751 mL
   PO:
   TF:
   IVF:
                                                                  2,132 mL
                                                                    751 mL
   Blood products:
   Total out:
                                                                    535 mL
                                                                     40 mL
   Urine:
                                                                    535 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,597 mL
                                                                    711 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/39/169/20/-4
   Ve: 8.7 L/min
   PaO2 / FiO2: 422
   Physical Examination
   Intubated, sedated
   Cordis in place
   Bibasilar crackles when auscultating from anterior
   Regular rhythm, normal rate.
   NABS, sof/ND, no masses or HSM
   WWP, 2+ UE and LE edema bilaterally
   Labs / Radiology
   241 K/uL
   9.4 g/dL
   130 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.6 mEq/L
   32 mg/dL
   101 mEq/L
   130 mEq/L
   28.0 %
   35.3 K/uL
        [image002.jpg]
                            [**2129-12-7**]  03:04 AM
                            [**2129-12-7**]  06:17 PM
                            [**2129-12-7**]  08:14 PM
                            [**2129-12-7**]  08:30 PM
                            [**2129-12-7**]  09:50 PM
                            [**2129-12-8**]  01:40 AM
                            [**2129-12-8**]  02:58 AM
                            [**2129-12-8**]  06:00 AM
                            [**2129-12-8**]  06:12 AM
   WBC
   27.6
   32.8
   35.3
   Hct
   31.1
   28.6
   28.0
   Plt
   282
   283
   241
   Cr
   1.2
   1.0
   TCO2
   26
   25
   25
   26
   24
   22
   Glucose
   149
   130
   Other labs:
                                     126
                               [image004.gif]
                                     94
                               [image004.gif]
                                     40
   [image006.gif]
   112
                                                                   AGap=18
   [image007.gif]
   5.1
                               [image004.gif]
                                     19
                               [image004.gif]
                                     1.6
   [image009.gif]
   Ca: 8.4 Mg: 2.9 P: 4.3
   ALT: 20
   AP: 134
   Tbili: 0.7
   Alb:
   AST: 27
   LDH: 367
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   MICRO:
   blood culture ([**2051-12-5**]): NGTD
   Urine culture ([**12-7**]): pending
   Sputum culture ([**12-8**]): pending
   c.diff not sent yet
   CXR ([**12-7**]):
   Small bilateral pleural effusions unchanged. New opacification in left
   lower
   lobe, probably atelectasis. Upper lungs clear. Mild cardiomegaly
   stable.
   Right jugular line ends centrally. No pneumothorax.
   KUB ([**12-7**]):
   No abnormally dilated loops of bowel are seen and while no
   obvious pneumoperitoneum is identified, this is a limited single supine
   view.
   A rounded calcific structure measuring 10 mm projects in the right
   mid-to-
   lower abdomen, of unclear etiology. Surgical clips project over the
   pelvis.
   Small bilateral pleural effusions and left lower lobe consolidation are
   partially imaged.
   IMPRESSION: Limited single supine view without evidence for
   obstruction.
   RUQ US ([**12-7**]):
   1. Cholelithiasis, but no evidence of cholecystitis or bile duct
   dilation.
   2. Soft tissue structure in the portal hilum, possibly an enlarged
   lymph
   node, of uncertain etiology and significance. This finding could be
   further
   evaluated by CT as clinically indicated.
   3. Right pleural effusion.
   UE venous US ([**12-7**]):
   Internal jugular vein was not evaluated due to overlying
   bandages. Otherwise, no DVT seen within the remainder of the right
   upper
   extremity.
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and now new afib with RVR. She continues to be
   hypotensive despite rate control now with increasing leukocytosis,
   concerning for septic shock.
   .
   # Respiratory failure: Likely from pulmonary edema in the setting of
   severe MR and heart failure.  Pneumonia is also possible given opacity
   in LLL.  Patient had labored breathing on [**12-7**], ABG showed worsening
   oxygenation, so was intubated on[**12-7**].
   - continue current AC mode
   - continue current abx (vanc, zosyn and flagyl) for broad coverage
   - f/u sputum culture
   - may need to diurese when pressure is better
   - daily CXR
   - need to rule out PE when pt can get IV contrast
   .
   # MR: patient was found to have [**Date Range 10146**] tear at posterior leaflet of
   mitral valve, likely contributing to worsening MR.  [**Name14 (STitle) 10146**] tear is
   likely a consequence of chronic history of MVP.  MR is likely
   contributing to her afib.
   - Csurge following (requesting dental records from OSH from [**Month (only) 1961**],
   carotid US)
   - be gentle on IVF to avoid flash pulmonary edema
   - may need to diurese when pressure is better
   - discontinue IABP support
   - contact Dr. [**Last Name (STitle) **] (OSH cardiologist) re chronicity of MR and whether
   [**Last Name (STitle) 10146**] rupture is acute
   .
   #. Sepsis: Patient with hypotension, tachycardia, WBC with left-shift
   and UTI at OSH suggesting sepsis.  Also concerning for endocarditis,
   but negative blood cultures and RF normal.  ESR and CRP significantly
   elevated.
   - pan-scan pt today
   - Continue antibiotics for now (Vanc/Zosyn/flagyl)
   - follow lactate and UOP  (goal 30cc/hr)
   - follow CVP (goal [**7-18**])
   - Daily BC
   - CIS
   - F/u all cultures including c. diff
   - F/u OSH micro
   .
   # Hypotension: Unclear etiology but this is likely a combination sepsis
   and heart failure from severe MR (shown on TTE on [**2129-12-6**]).  Pt has
   converted to sinus rhythm, so afib with RVR is not playing a role in
   this hypotension.  She has rising WBC with significant left shift
   raising posibility of infection (sources include UTI, pneumonia,
   abdomen and C diff). Pt has peripheral vasodilatation on exam,
   indicating sepsis could play a role in hypotension.  s/p Swan ganz
   catheter and A-line placement on [**12-7**].  PE needs to be ruled out.
   - discontinue IABP
   - continue pressor (neo)
   - Cont Vanc/Zosyn/flagyl until culture data back
   - Treating infectious causes (see above)
   - f/u C diff
   - follow Lactate and UOP
   - follow CVP
   - will give pt 2u pRBC today
   - will rule out PE when pt renal fnx improves
   .
   # LEUKOCYTOSIS: pt WBC climbing to 27.6 this AM.  Unclear whether this
   is from infection or other causes.  Diff showed immature myelocytes, so
   also question bone marrow abnormalities.  Flu ruled out at OSH.
   - check peripheral smear today (smear in [**Hospital Ward Name 1107**] lab)
   - f/u c.diff
   - f/u all cultures
   - continue to trend CBC
   - pan-scan
   - rule out flu
   .
   # RHYTHM: Pt spontaneously converted to sinus rhythm after unsuccessful
   electric and pharmacological cardioversion overnight, but then went
   back to afib this morning.  In terms of etiology of afib, infection is
   one possibility.  Other etiologies include worsened MR (although LA is
   not significantly dilated).  TSH normal.
   - continue Amiodarone gtt
   - restart dilt drip
   - continue metoprolol 12.5 QID
   - continue heparin drip for now
   .
   # PUMP: history of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema).  Repeat TTE
   here at [**Hospital1 **] showed normal EF, but given mod MR, this EF could be
   overestimated.  Patient appeared volume depleted on admission, but now
   euvolemic.
   - discontinue IABP support
   .
   # Elevated alk phos and GGT:  Question whether she has biliary
   obstruction, leading to cholecystitis or cholangitis, given her
   significantly elevated WBC. However, blood cx negative so far, and pt
   has no abdominal pain. RUQ US showed no significant abnormalities.
   - continue to trend
   - pan scan
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations. However, MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue on aspirin for now.
   .
   # UTI: Citrobacter only resistent to macrobid, potential source
   - treatment as above
   .
   #. Hyponatremia: pt was initially intravascularly dry, so initially
   hyponatremia was mostly [**1-10**] hypovolemic.  currently euvolemic but pt
   continues to have hyponatremia, question whether this is from heart
   failure
   - continue to trend
   - will give blood today for volume repletion given that pt is possibly
   intravascularly dry
   - give NS if pt needs IVF
   .
   #. Anemia: normocytic, normochromic with normal RDW. Most likely
   chronic diseases.  Fe studies are consistent with ACD.  Retic 1.5,
   indicating poor bone marrow response.  B12 and folate normal.  When
   IABP in place, there is a risk of hemolysis.
   - Trend HCT
   - check hemolysis labs today
   .
   #. Acute Renal failure: cr 1.2 on admission, rising to 1.6 today.
   Likely pre-renal given hypotension and heart failure.
   - check urine lytes
   - discontinue IABP
   - pan scan
   - Trend creatinine
   .
   #Glaucoma:
   - continue home medications
   .
   #History of hypertension:
   - hold home lisinopril given pressures.
   .
   #Hypothyroidism - TSH 3.3
   - continue home levothyroxine dose.
   ICU Care
   Nutrition: should start TF
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2129-12-6**] 03:00 PM
   Arterial Line - [**2129-12-7**] 01:19 PM
   Cordis/Introducer - [**2129-12-7**] 02:35 PM
   IABP line - [**2129-12-7**] 05:30 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  IV H2 blocker
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Daughter (HCP) [**Name (NI) 142**] [**Name (NI) 1932**] home: [**Telephone/Fax (1) 10132**]
   and cell: [**Telephone/Fax (1) 10133**]
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Agree with detailed plan
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-8**] 10:19 ------

2129-12-09 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pressor requirement up (neo+levophed)
   - s/p 2u pRBC, NS, bicarb, trying to increase intravascular volume to
   help with BP; CVP consistently around 10
   - oliguric; FeNa = 0.1%; osmolality = 334 consistent with mixed
   pre-renal and intrinsic renal injury
   - pan-scan undecided; pt too unstable to leave floor
   - family meeting held, made pt DNR
   - ABG-->more acidotic, lactate rising; started bicarb gtt
   - ID recs: cont. IV and oral vanc; switch zosyn/ flagyl to meropenem
   for greater GNR coverage
   - renal recs: wanted to start CVVHD but family elected to hold off
   - repeat KUB wet read: Non specific bowel gas pattern, with paucity of
   gas in the upper abdomen, could reflect ascites/fluid filled loops of
   bowel or organomegaly. no evidence of high grade obstruction or
   perforation. NG tube in standard location
   - LENIs: UE wnl although right IJ not evaluated; possible DVT in
   posterior tibial veins right calf. recommend repeat US in several dys
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-12-7**] 07:17 PM
   Piperacillin - [**2129-12-8**] 12:00 AM
   Vancomycin - [**2129-12-8**] 08:00 AM
   Metronidazole - [**2129-12-8**] 09:00 AM
   Meropenem - [**2129-12-8**] 04:30 PM
   Infusions:
   Norepinephrine - 0.22 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Fentanyl (Concentrate) - 25 mcg/hour
   Heparin Sodium - 1,500 units/hour
   Midazolam (Versed) - 1 mg/hour
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-9**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.6
   HR: 124 (77 - 144) bpm
   BP: 82/62(72) {61/33(42) - 101/70(82)} mmHg
   RR: 0 (0 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 75 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 347 (8 - 359)mmHg
   PAP: (23 mmHg) / (9 mmHg)
   CO/CI (Fick): (10.8 L/min) / (5.9 L/min/m2)
   Mixed Venous O2% Sat: 59 - 84
   Total In:
                                                                  7,395 mL
                                                                  1,513 mL
   PO:
   TF:
   IVF:
                                                                  6,585 mL
                                                                  1,453 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    330 mL
                                                                    145 mL
   Urine:
                                                                    250 mL
                                                                    145 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  7,065 mL
                                                                  1,368 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.33/36/143/21/-6
   Ve: 11.7 L/min
   PaO2 / FiO2: 358
   Physical Examination
   Intubated, sedated; anasarca
   Cordis in place
   Bibasilar crackles when auscultating from anterior
   Tachycardic, irregularly irregular
   NABS, sof/ND, no masses or HSM
   WWP, 3+ UE and LE edema bilaterally
   Labs / Radiology
   144 K/uL
   11.2 g/dL
   140 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.4 mEq/L
   41 mg/dL
   95 mEq/L
   126 mEq/L
   32.9 %
   48.8 K/uL
        [image002.jpg]
                            [**2129-12-8**]  01:13 PM
                            [**2129-12-8**]  02:33 PM
                            [**2129-12-8**]  03:07 PM
                            [**2129-12-8**]  06:22 PM
                            [**2129-12-8**]  08:02 PM
                            [**2129-12-8**]  08:24 PM
                            [**2129-12-8**]  08:26 PM
                             [**2129-12-9**]  12:46 AM
                             [**2129-12-9**]  03:27 AM
                             [**2129-12-9**]  03:41 AM
   WBC
   42.9
   48.8
   Hct
   36.1
   36.1
   36.1
   36.1
   32.9
   Plt
   208
   144
   Cr
   2.0
   1.8
   1.9
   TCO2
   14
   15
   16
   14
   16
   20
   Glucose
   106
   129
   140
   Other labs: PT / PTT / INR:21.7/121.8/2.0, ALT / AST:17/43, Alk Phos /
   T Bili:118/1.1, Differential-Neuts:80.0 %, Band:7.0 %, Lymph:9.0 %,
   Mono:2.0 %, Eos:1.0 %, Lactic Acid:4.5 mmol/L, Albumin:2.2 g/dL,
   LDH:528 IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging:
   KUB: [**2129-12-8**]: non specific bowel gas pattern, paucity air in upper
   abdomen , could reflect ascites/fluid filled loops of bowel or
   organomegaly.  No evidence high grade obstruction or perf
   Doppler U/S:
   LE: [**2129-12-8**]: possible DVT in posterior tibial vein right calf.  [**Month (only) 11**]
   represent old clot.  No acute DVT. Recommend repeat US in several days
   to re-evaluate
   CXR: [**2129-12-8**]: endotracheal tube 3.8cm above carina, intra-aortic
   balloon pump terminating 3.7cm below superior aspect aortic knob.  NGT
   terminates in the stomach; Swan Ganz terminate in RV.  Heart enlarged
   with slight improvement in left lower lobe atelectasis.  Persistent
   small bilateral effusions.
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and now new afib with RVR. She continues to be
   hypotensive despite rate control now with increasing leukocytosis,
   concerning for septic shock.
   .
   #. Shock: etiology multifactorial from presumed sepsis and cardiogenic
   (acute MR, afib with RVR).  Low SVR, high CO, high mixed venous
   saturations suggest predominantly septic physiology.  Currently
   requiring multiple pressors and intra-aortic balloon pump to maintain
   MAP> 60.
   - cont phenylephrine, levophed to keep MAP > 60; consider adding
   vasopressin if necessary
   - wean IABP and pull today
   - d/c swanz-catheter and replace with triple lumen
   - monitor CVP (goal > 10, fluid bolus prn), Mixed venous sat (goal >
   70%), lactate and UOP
   - daily blood cx
   - CT torso today if pt stabilizes
   - continue empiric antibiotic coverage with IV and PO vanc/ meropenem
   - consider r/o PE if condition does not improve
   .
   #. Acute Renal failure: oliguric, cr 1.2 on admission, rising to 1.9.
   Likely pre-renal with overlying ATN.  Renal following, patient will
   likely need CVVHD but family has decided to limit care.  Patient with
   volume overload, metabolic acidosis but no significant electrolyte
   abnormalities
   - discontinue IABP
   - pan scan
   - Trend creatinine
   - cont bicarb gtt
   - f/u with renal recs
   .
   # Respiratory failure: Likely from pulmonary edema in the setting of
   severe MR and heart failure.  Pneumonia is also possible given opacity
   in LLL.  Patient had labored breathing on [**12-7**], ABG showed worsening
   oxygenation, so was intubated on[**12-7**].
   - continue current AC mode
   - continue current abx (vanc, meropenem) for broad coverage
   - f/u sputum culture
   - may need to diurese when pressure is better
   - daily CXR
   - need to rule out PE when pt can get IV contrast
   .
   # MR: patient was found to have [**Date Range 10146**] tear at posterior leaflet of
   mitral valve, likely contributing to worsening MR.  [**Name14 (STitle) 10146**] tear is
   likely a consequence of chronic history of MVP.  MR [**First Name (Titles) 43**] [**Last Name (Titles) 10166**]
   infection  is likely contributing to her afib.
   - Csurge following (requesting dental records from OSH from [**Month (only) 1961**],
   carotid US)
   - be gentle on IVF to avoid flash pulmonary edema
   - discontinue IABP support
   - contact Dr. [**Last Name (STitle) **] (OSH cardiologist) re chronicity of MR and whether
   [**Last Name (STitle) 10146**] rupture is acute
   .
   # LEUKOCYTOSIS: pt WBC climbing to 48.8 this AM.  Unclear whether this
   is from infection (sources include UTI, pneumonia, abdomen and C diff)
   Also concerning for endocarditis, but negative blood cultures and RF
   normal.  ESR and CRP significantly elevated.  Diff showed immature
   myelocytes, so also question bone marrow abnormalities. .
   Flu ruled out at OSH.
   - check peripheral smear today (smear in [**Hospital Ward Name 1107**] lab)
   - heme consult for further evaluation possible malignancy
   - f/u c.diff
   - f/u all cultures
   - continue to trend CBC
   - pan-scan
   - rule out flu
   .
   # RHYTHM: Pt spontaneously converted to sinus rhythm after unsuccessful
   electric and pharmacological cardioversion overnight, but then went
   back to afib yesterday.  In terms of etiology of afib, infection is one
   possibility.  Other etiologies include worsened MR (although LA is not
   significantly dilated).  TSH normal.
   - continue Amiodarone gtt
   - hold nodal agents in the setting of hypotension
   - continue heparin drip for now
   .
   # PUMP: history of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema).  Repeat TTE
   here at [**Hospital1 **] showed normal EF, but given mod MR, this EF could be
   overestimated.  Patient appeared volume depleted on admission, but now
   euvolemic.
   - discontinue IABP support
   .
   # Elevated alk phos and GGT:  Question whether she has biliary
   obstruction, leading to cholecystitis or cholangitis, given her
   significantly elevated WBC. However, blood cx negative so far, and pt
   has no abdominal pain. RUQ US showed no significant abnormalities.
   - continue to trend
   - pan scan
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations. However, MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue on aspirin for now.
   .
   # UTI: Citrobacter only resistent to macrobid, potential source
   - treatment as above
   .
   #. Hyponatremia: pt was initially intravascularly dry, so initially
   hyponatremia was mostly [**1-10**] hypovolemic.  currently euvolemic but pt
   continues to have hyponatremia, question whether this is from heart
   failure
   - continue to trend
   - will give blood today for volume repletion given that pt is possibly
   intravascularly dry
   - give NS if pt needs IVF
   .
   #. Anemia: normocytic, normochromic with normal RDW. Most likely
   chronic diseases.  Fe studies are consistent with ACD s/p 2 UpRBC.
   Retic 1.5, indicating poor bone marrow response.  B12 and folate
   normal.  When IABP in place, there is a risk of hemolysis.
   - Trend HCT
   - check hemolysis labs today
   .
   #Glaucoma:
   - continue home medications
   .
   #History of hypertension:
   - hold home lisinopril given pressures.
   .
   #Hypothyroidism - TSH 3.3
   - continue home levothyroxine dose.
   ICU Care
   Nutrition: NPO: should start tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-12-6**] 03:00 PM
   Arterial Line - [**2129-12-7**] 01:19 PM
   Cordis/Introducer - [**2129-12-7**] 02:35 PM
   IABP line - [**2129-12-7**] 05:30 PM
   Prophylaxis:
   DVT: systemically anticoagulated on heparin gtt
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: critical
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-9**] 10:07 ------

2129-12-11 07:37:00 Physician Resident Progress Note
Chief Complaint: weakness, fatigue
   24 Hour Events:
   - started on Doxy 100mg IV q12H as ID felt unlikely to harm
   - ID: d/c PO vanc & flagyl, can add doxy, sent EMB/CMV/HIV/,
   rickettsial, anaplasma serologies, get LN bx
   - started on tube feeds
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3**] consulted, declined LN bx
   - Heme Onc, deferred to ID w/u, did not think presentation was c/w
   lymphoma
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2129-12-8**] 09:00 AM
   Vancomycin - [**2129-12-10**] 12:26 PM
   Doxycycline - [**2129-12-11**] 04:00 AM
   Meropenem - [**2129-12-11**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Phenylephrine - 3 mcg/Kg/min
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-12-11**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-11**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 111 (97 - 116) bpm
   BP: 101/44(61) {89/40(57) - 127/59(80)} mmHg
   RR: 26 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 89.5 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 16 (10 - 16)mmHg
   Total In:
                                                                  4,582 mL
                                                                  1,311 mL
   PO:
   TF:
                                                                    220 mL
                                                                    155 mL
   IVF:
                                                                  4,077 mL
                                                                  1,116 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    240 mL
   Urine:
                                                                    945 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,637 mL
                                                                  1,071 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 147
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/39/91/20/-4
   Ve: 13.1 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Gen: Intubated, sedated; anasarca of upper and lower extremities
   HEENT: RIJ in place, lip ulcerations lower lip > upper lip crusted
   without exudate
   Cardio: Tachycardic, regular rhythm with frequent PVC
s, no murmurs
   Pulm: Bibasilar crackles when auscultating from anterior
   Abdominal: NABS, soft, ND, no guarding or masses
   Peripheral Vascular: WWP, 3+ UE and LE edema bilaterally
    (Right radial pulse: palpable), (Left radial pulse: palpable), (Right
   DP pulse: palpable), (Left DP pulse: palpable)
   Skin:  mild traumatic ecchymoses on arms, oral ulcerations as noted
   above
   Neurologic: Does not respond to voice, Movement: No spontaneous
   movements, Tone: Not assessed
   Labs / Radiology
   191 K/uL
   11.0 g/dL
   111 mg/dL
   1.6 mg/dL
   20 mEq/L
   4.3 mEq/L
   42 mg/dL
   99 mEq/L
   129 mEq/L
   33.2 %
   45.2 K/uL
        [image002.jpg]
                             [**2129-12-9**]  03:41 AM
                             [**2129-12-9**]  12:11 PM
                             [**2129-12-9**]  05:10 PM
                             [**2129-12-9**]  05:14 PM
                             [**2129-12-10**]  04:06 AM
                             [**2129-12-10**]  12:15 PM
                             [**2129-12-10**]  04:25 PM
                             [**2129-12-10**]  06:52 PM
                             [**2129-12-11**]  04:03 AM
                             [**2129-12-11**]  04:19 AM
   WBC
   49.1
   38.0
   45.2
   Hct
   33.9
   33.6
   33.2
   Plt
   188
   203
   191
   Cr
   1.9
   1.8
   1.7
   1.6
   TCO2
   20
   22
   23
   17
   22
   21
   Glucose
   127
   90
   105
   111
   Other labs: PT / PTT / INR:16.8/72.0/1.5, ALT / AST:29/55, Alk Phos / T
   Bili:145/0.7, Differential-Neuts:82.0 %, Band:6.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:3.4 mmol/L, Albumin:2.2 g/dL,
   LDH:394 IU/L, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and now new afib with RVR. She continues to require
   pressors with an increasing leukocytosis, concerning for septic shock
   despite no positive cultures.
   .
   #.Diffuse lymphadenopathy:  CT scan demonstrated diffuse
   lymphadenopathy & pulmonary nodules.
   - discuss with family re goals of care and whether they want to pursue
   tissue dx and chemo
   - surgery consult for axillary or inguinal lymph node bx
   - heme-onc recs
   .
   #. Shock: etiology multifactorial from newly discovered lymphoma,
   presumed sepsis and cardiogenic (acute MR, afib with RVR).  Low SVR,
   high CO, high mixed venous saturations suggest predominantly septic
   physiology.  Currently requiring multiple pressors.  IABP pulled
   yesterday.  Swan was pulled out yesterday as well.
   - cont phenylephrine, levophed to keep MAP > 60; consider adding
   vasopressin if necessary
   - monitor CVP (goal > 10, fluid bolus prn), Mixed venous sat (goal >
   70%), lactate and UOP
   - daily blood cx
   - continue empiric antibiotic coverage with IV and PO vanc/ meropenem
   .
   #. Acute Renal failure: oliguric, cr 1.2 on admission, 1.6 today.
   Likely pre-renal with overlying ATN.  Renal following.  Family is ok
   with HD in emergent situation. Patient with volume overload, metabolic
   acidosis improving, no significant electrolyte abnormalities
   - Trend creatinine
   - will give bicarb if acidotic
   - f/u with renal recs
   .
   # Respiratory failure: Likely from pulmonary edema in the setting of
   severe MR and heart failure.  Pneumonia is also possible given opacity
   in LLL.  Patient had labored breathing on [**12-7**], ABG showed worsening
   oxygenation, so was intubated on[**12-7**].
   - continue current AC mode
   - continue current abx (vanc, meropenem) for broad coverage
   - f/u sputum culture
   - may need to diurese when pressure is better
   - daily CXR
   - need to rule out PE when pt can get IV contrast
   .
   # MR: patient was found to have [**Date Range 10146**] tear at posterior leaflet of
   mitral valve, likely contributing to worsening MR.  [**Name14 (STitle) 10146**] tear is
   likely a consequence of chronic history of MVP.  MR [**First Name (Titles) 43**] [**Last Name (Titles) 10166**]
   infection  is likely contributing to her afib.
   - Csurge following (requesting dental records from OSH from [**Month (only) 1961**],
   carotid US)
   - contact Dr. [**Last Name (STitle) **] (OSH cardiologist) re chronicity of MR and whether
   [**Last Name (STitle) 10146**] rupture is acute
   .
   # LEUKOCYTOSIS: pt WBC climbing to 48.8 this AM.  Unclear whether this
   is from infection (sources include UTI, pneumonia, abdomen and C diff)
   Also concerning for endocarditis, but negative blood cultures and RF
   normal.  ESR and CRP significantly elevated.  Diff showed immature
   myelocytes, so also question bone marrow abnormalities. On [**Last Name (un) 1540**], Vanc,
   Doxy. U/A from [**2129-12-9**] negative.
   Flu ruled out at OSH.
   - check peripheral smear today (smear in [**Hospital Ward Name 1107**] lab)
   - heme consult for further evaluation possible malignancy
   - f/u c.diff
   - f/u all cultures
   - continue to trend CBC
   .
   # RHYTHM: Pt spontaneously converted to sinus rhythm after unsuccessful
   electric and pharmacological cardioversion overnight, but then went
   back to afib yesterday.  In terms of etiology of afib, infection is one
   possibility.  Other etiologies include worsened MR (although LA is not
   significantly dilated).  TSH normal.
   - discontinue Amiodarone gtt, start PO amiodarone 200mg [**Hospital1 **]
   - hold nodal agents in the setting of hypotension
   - continue bival drip for now, goal PTT 50-60 (PTT Q4h)
   .
   # PUMP: history of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema).  Repeat TTE
   here at [**Hospital1 **] showed normal EF, but given mod MR, this EF could be
   overestimated.  Patient appeared volume depleted on admission, but now
   euvolemic.
   .
   # Elevated alk phos and GGT:  Question whether she has biliary
   obstruction, leading to cholecystitis or cholangitis, given her
   significantly elevated WBC. However, blood cx negative so far, and pt
   has no abdominal pain. RUQ US showed no significant abnormalities.  CT
   showed no significant hepatobiliary abnormalities.
   - continue to trend
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations. However, MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue on aspirin for now.
   .
   #. Hyponatremia: pt was initially intravascularly dry, so initially
   hyponatremia was mostly [**1-10**] hypovolemic.  currently euvolemic but pt
   continues to have hyponatremia, question whether this is from heart
   failure
   - continue to trend
   - will give blood today for volume repletion given that pt is possibly
   intravascularly dry
   - give NS if pt needs IVF
   .
   #. Anemia: normocytic, normochromic with normal RDW. Most likely
   chronic diseases.  Fe studies are consistent with ACD s/p 2 U pRBC.
   Retic 1.5, indicating poor bone marrow response.  B12 and folate
   normal.  When IABP in place, there is a risk of hemolysis.
   - Trend HCT
   - check hemolysis labs today
   .
   #Glaucoma:
   - continue home medications
   .
   #History of hypertension:
   - hold home lisinopril given pressures.
   .
   #Hypothyroidism - TSH 3.3
   - Continue home levothyroxine dose.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  None
   Lines:
   Arterial Line - [**2129-12-7**] 01:19 PM
   Cordis/Introducer - [**2129-12-7**] 02:35 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: pending improvement

2129-12-12 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2129-12-11**] 09:33 AM
 PAN CULTURE - At [**2129-12-11**] 10:00 AM
   - PPD placed
   - ID: ordered several labs for viral, fungal etiology; UA negative; -
   Phlebotomized (roughly 10 corvacs and 2 cultures taken for ID workup)
   - Neosynephrine d/c'd with good MAP's
   - Had first BM, cultures sent
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-11**] 08:30 AM
   Doxycycline - [**2129-12-12**] 04:00 AM
   Meropenem - [**2129-12-12**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-12-12**] 01:00 AM
   Midazolam (Versed) - [**2129-12-12**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-12**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 109 (98 - 117) bpm
   BP: 119/51(71) {86/40(55) - 131/59(77)} mmHg
   RR: 29 (0 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 91.7 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 13 (10 - 16)mmHg
   Total In:
                                                                  4,174 mL
                                                                  1,202 mL
   PO:
   TF:
                                                                    565 mL
                                                                    234 mL
   IVF:
                                                                  3,318 mL
                                                                    918 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                    185 mL
   Urine:
                                                                    890 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,284 mL
                                                                  1,017 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.40/36/91/20/-1
   Ve: 13.8 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Gen: Intubated, sedated; anasarca of upper and lower extremities
   HEENT: RIJ in place, lip ulcerations lower lip > upper lip crusted
   without exudate
   Cardio: Tachycardic, irregularly irregular, no murmurs
   Pulm: Bibasilar crackles when auscultating from anterior
   Abdominal: NABS, soft, ND, no guarding or masses
   Peripheral Vascular: WWP, 3+ UE and LE edema bilaterally
    (Right radial pulse: palpable), (Left radial pulse: palpable), (Right
   DP pulse: palpable), (Left DP pulse: palpable)
   Skin:  mild traumatic ecchymoses on arms, oral ulcerations as noted
   above
   Neurologic: Does not respond to voice, Movement: No spontaneous
   movements, Tone: Not assessed
   Labs / Radiology
   216 K/uL
   11.0 g/dL
   159 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.1 mEq/L
   44 mg/dL
   103 mEq/L
   132 mEq/L
   32.5 %
   36.2 K/uL
        [image002.jpg]
                             [**2129-12-10**]  04:06 AM
                             [**2129-12-10**]  12:15 PM
                             [**2129-12-10**]  04:25 PM
                             [**2129-12-10**]  06:52 PM
                             [**2129-12-11**]  04:03 AM
                             [**2129-12-11**]  04:19 AM
                             [**2129-12-11**]  05:13 PM
                             [**2129-12-11**]  05:51 PM
                             [**2129-12-12**]  04:01 AM
                             [**2129-12-12**]  04:17 AM
   WBC
   49.1
   38.0
   45.2
   37.9
   36.2
   Hct
   33.9
   33.6
   33.2
   33.5
   32.5
   Plt
   188
   203
   191
   224
   216
   Cr
   1.8
   1.7
   1.6
   1.4
   1.3
   TCO2
   17
   22
   21
   22
   23
   Glucose
   90
   105
   111
   159
   159
   Other labs:
   PTT:84.8,
   ALT / AST:21/34, Alk Phos / T Bili:151/0.5, LDH:301 IU/L,
   Differential-Neuts:88.0 %, Band:2.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:1.0
   %,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Micro:
   Blood cx pending
   Urine cx pending
   C.diff neg
   EBV serologies, CMV viral load, HSV cx, toxo serologies pending
   Respiratory cx, fungal cx, PCP, [**Name10 (NameIs) 7910**] pending
   Lyme serology pending
   Anaplasma serology, tularemia serology, ehrlichia serology, babesia
   serologies and PCR, b-glucan, galactomannan pending
   PPD pending
   Imaging:
   CXR from today: scheduled, pending
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and new afib with RVR. She is improving with less pressor
   requirements and improving leukocytosis, concerning for septic shock
   despite no positive cultures and a CT demonstrating diffuse
   lymphadenopathy with pulmonary nodules.
   .
   #. Leukocytosis & Diffuse lymphadenopathy: WBC trending down, 36.2 this
   AM.. CT scan demonstrated diffuse lymphadenopathy & pulmonary nodules.
   Etiology may be infection (e.g. pneumonia, endocarditis) but negative
   urine, sputum, blood cultures, flu negative at OSH, and RF normal. ID
   felt presentation was unlikely to be infectious, but as could not
   exclude, recommended CMV/EBV/HIV, anaplasma, rickettsial serologies.
   All serologies sent except for an HIV test as patient is unable to
   consent. ID also indicated Doxycycline was unlikely to harm patient so
   Doxycycline started on [**2129-12-10**] for any possible rickettsial illness.
   Could also be possible neoplasm given CT scan & diff demonstrating
   immature myelocytes, but not able to confirm with tissue at this time
   as General Surgery declined LN biopsy. A peripheral smear as read by
   Heme/Onc was without clear etiology and the team did not feel this was
   likely to represent lymphoma.  ESR and CRP significantly elevated.  On
   Meropenem, day 5, IV Vancomycin, day 7, Doxycycline, day 3. PPD placed
   on [**2129-12-11**]
   - continue vanc, [**Last Name (un) **] and doxy
   - f/u any daily Heme/Onc recs
   - f/u any daily ID recs
   - f/u any daily G Surgery recs
   - f/u cx
s, all cultures negative to date
   - f/u infectious serologies
   - continue to trend CBC
   - resite RIJ to LIJ
   - send cx from purulent material at RIJ
   .
   #. Shock: [**Month (only) 11**] be [**1-10**] presumed infection and cardiogenic (acute MR, afib
   with RVR) insult.  High mixed venous saturations suggest predominantly
   septic physiology.  Now off neo, still on levophed
   - cont levophed to keep MAP > 60, slowly wean down
   - monitor CVP (goal > 10, fluid bolus prn), Mixed venous sat (goal >
   70%), lactate and UOP
   - daily surveillance blood cx
   - continue empiric antibiotic coverage with IV
   Vanc/Meropenem/Doxycycline
   .
   #. Acute Renal failure: Improving significantly.  Cr 1.2 on admission,
   1.3 today.  Likely pre-renal with overlying ATN.  Renal following.
   Family is ok with HD in emergent situation. Patient with volume
   overload, metabolic acidosis resolved, no significant electrolyte
   abnormalities & UOP ranging 30-40cc/hr.
   - Trend creatinine
   - Goal UOP >30cc/hr
   - f/u renal recs
   - IVF
s titrated to UOP
   .
   # Respiratory failure: Likely from pulmonary edema in the setting of
   severe MR and heart failure.  Pneumonia is also possible given opacity
   in LLL.  Patient intubated on[**12-7**] in context of respiratory distress.
   Sputum culture negative for infections.
   - continue current AC mode
   - continue current abx (vanc, meropenem, doxy) for broad coverage
   - daily CXR
   - f/u sputum cx, [**Date Range 7910**], PCP and fungal cx
   - need to rule out PE when pt can get IV contrast
   .
   # PUMP: History of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema), but repeat TTE
   showed normal EF (>60%). Patient also with known MR [**First Name (Titles) 43**] [**Last Name (Titles) 10178**] tear at
   posterior leaflet of mitral valve, likely contributing to worsening MR
   which may be causing overestimation of EF.
   .
   # RHYTHM: Pt goes in and out of AF frequently.  Infection is possible
   cause, but may also be worsened MR (although LA is not significantly
   dilated).  TSH normal.
   - Continue PO amiodarone 200mg [**Hospital1 **]
   - hold nodal agents in the setting of hypotension
   - continue heparin gtt for now.
   .
   # Elevated alk phos and GGT: pt w/o abdominal pain on admission. RUQ US
   showed no significant abnormalities, no biliary obstruction.  CT showed
   no significant hepatobiliary abnormalities.
   - continue to trend
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations. However, MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA
   .
   #. Hyponatremia: Improving.  Pt was intravascularly dry on admission,
   so initially hyponatremia was thought to be [**1-10**] hypovolemia, now
   patient euvolemic.
   - Continue to trend
   - NS if UOP is low
   .
   #. Anemia: Normocytic, normochromic with normal RDW. Fe studies c/w ACD
   s/p 2u pRBC
s.  Retic 1.5, indicating poor bone marrow response.  B12
   and folate normal.
   - Trend HCT
   .
   #Glaucoma:
   - continue home medications
   .
   #Hypothyroidism - TSH 3.3
   - Continue home levothyroxine dose.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-12**] 01:51 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-12-7**] 01:19 PM
   Cordis/Introducer - [**2129-12-7**] 02:35 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: H2 blocker
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: pending improvement
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   Medical Decision Making
   Urine output and Cr improved. Will now back off on fluids given
   increasing pleural effusion and pulmonay congestion. etiologoy of
   sepsis unclear but may be viral. WBC coming down. Trying to wean
   pressors as BP comes up.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-12**] 10:21 ------

2129-12-13 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2129-12-12**] 01:00 PM
 ARTERIAL LINE - START [**2129-12-12**] 01:30 PM
 CORDIS/INTRODUCER - STOP [**2129-12-12**] 04:00 PM
 MULTI LUMEN - START [**2129-12-12**] 04:00 PM
   [**12-12**]:
   - still on levophed, trying to wean it down
   - A-line re-placed because the old line was not [**Location (un) 103**] BP
   appropriately.
   - RIJ cordis removed
   - LIJ placed
   - culture sent from RIJ tip and purulent material around the line
   - family informed
   - surgery re-consulted for LN bx, they will re-assess pt tomorrow
   - pt is NPO after midnight in case she is getting node bx
   History obtained from Medical records
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-12**] 08:16 AM
   Doxycycline - [**2129-12-13**] 04:00 AM
   Meropenem - [**2129-12-13**] 04:40 AM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-13**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 109 (107 - 123) bpm
   BP: 108/49(67) {86/44(59) - 137/61(81)} mmHg
   RR: 29 (16 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.4 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 8 (8 - 22)mmHg
   Total In:
                                                                  2,823 mL
                                                                    415 mL
   PO:
   TF:
                                                                    566 mL
                                                                      6 mL
   IVF:
                                                                  2,207 mL
                                                                    410 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    300 mL
   Urine:
                                                                    705 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,118 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/35/118/20/-1
   Ve: 13.9 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Gen: unresponsive at first, intubated. On rounds, opens eyes, wiggles
   toes, not fingers
   HEENT: thick secreations with bloody tinge. Oral airway and ETT in
   place. Ulcerated lips
   CARD: irreg, tachy, 3/6 systolic murmur
   RESP: rhonchorous breath sounds bilaterally
   Abdomen: edematous
   Ext: anasarca with fluid weeping from puncture sites
   Peripheral Vascular:  All pulses bounding (2+)
   Skin:  Not assessed
   Neurologic:  see above; pupils ERRL, however Left pupil re-dilates in
   the light
   Labs / Radiology
   206 K/uL
   10.9 g/dL
   143 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.4 mEq/L
   47 mg/dL
   104 mEq/L
   132 mEq/L
   32.5 %
   29.0 K/uL
        [image002.jpg]
                             [**2129-12-10**]  06:52 PM
                             [**2129-12-11**]  04:03 AM
                             [**2129-12-11**]  04:19 AM
                             [**2129-12-11**]  05:13 PM
                             [**2129-12-11**]  05:51 PM
                             [**2129-12-12**]  04:01 AM
                             [**2129-12-12**]  04:17 AM
                             [**2129-12-12**]  11:35 AM
                             [**2129-12-13**]  05:25 AM
                             [**2129-12-13**]  05:39 AM
   WBC
   45.2
   37.9
   36.2
   29.0
   Hct
   33.2
   33.5
   32.5
   32.5
   Plt
   191
   224
   216
   206
   Cr
   1.6
   1.4
   1.3
   1.1
   TCO2
   22
   21
   22
   23
   22
   22
   Glucose
   111
   159
   159
   143
   Other labs: PT / PTT / INR:14.7/76.3/1.3, ALT / AST:15/34, Alk Phos / T
   Bili:141/0.5, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:5.0 %,
   Mono:4.0 %, Eos:1.0 %, Lactic Acid:1.8 mmol/L, Albumin:1.7 g/dL,
   LDH:337 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and new afib with RVR. She is improving with less pressor
   requirements and improving leukocytosis, concerning for septic shock
   despite no positive cultures and a CT demonstrating diffuse
   lymphadenopathy with pulmonary nodules.
   .
   #. Fluid overload: Anasarca [**1-10**] fluid imbalance. Urine output improving
   (100/hr on rounds) from 27 o/n. The fluid is from hypoalbuminemia, CHF,
   and leaky capillaries, either from septic physiology for idiopathically
   ([**Last Name (un) 10210**] syndrome)
   -          Goal diuresis is 1-1.5 litres is 24 hours
   -          start lasix drip at 5/hr
   -          goal CVP is 10, at 15 at present. Balance pressors and
   diuretics with CVP goals
   -          MAP goal is 65
   -          can ultrafiltrate if lasix doesn
t work
   -          if leaky capillary syndrome, then lasix/ultrafiltration or
   terbutaline/Aminophylline
   # Resolving acute Renal failure:
    Improving significantly.  Cr 1.2 on admission, 1.1 today.  Likely
   pre-renal with overlying ATN.  Renal following.  Family is ok with HD
   in emergent situation. Patient with volume overload, metabolic acidosis
   resolved, no significant electrolyte abnormalities & UOP ranging
   30-40cc/hr, just under 30 for [**12-12**]. Renal reccomends pressors over IVF
   for pressure management
   - diurese or ultrafiltrate given overload, as above
    - Trend creatinine
   - Goal UOP >30cc/hr
   - f/u renal recs
   # Neurologic status: evolving. Still likely related to poor clearance
   of sedatives. If no resolution, then considering CT head or LP
   -          follow
   -          OT consult for mobility
   #. Leukocytosis & Diffuse lymphadenopathy: WBC trending down, 29 (2%
   bands) this AM. CT scan demonstrated diffuse lymphadenopathy &
   pulmonary nodules. Etiology may be infection (e.g. pneumonia,
   endocarditis) but negative urine, sputum, blood cultures, flu negative
   at OSH, and RF normal. ID felt presentation was unlikely to be
   infectious, but as could not exclude, recommended CMV/EBV/HIV,
   anaplasma, rickettsial serologies. All serologies sent except for an
   HIV test as patient is unable to consent. Acute CMV, EBV negative.
   Respiratory viral panel is negative. UCx negative. Cdiff neg. ID also
   indicated Doxycycline was unlikely to harm patient so Doxycycline
   started on [**2129-12-10**] for any possible rickettsial illness. Could also be
   possible neoplasm given CT scan & diff demonstrating immature
   myelocytes, but not able to confirm with tissue at this time as General
   Surgery declined LN biopsy. On [**12-13**], they will reassess LN Bx. A
   peripheral smear as read by Heme/Onc was without clear etiology and the
   team did not feel this was likely to represent lymphoma.  ESR and CRP
   significantly elevated.  On Meropenem, day 6 (switched to TID), IV
   Vancomycin, day 8, Doxycycline, day 4. PPD placed on [**2129-12-11**] is negative
   as of [**2129-12-13**] (though anasarca makes interpretation difficult.). Central
   venous access resited to LIJ from RIJ on [**12-12**].
   - continue vanc, [**Last Name (un) **] and doxy
   - f/u any daily Heme/Onc recs
   - f/u any daily ID recs
   - f/u any daily G Surgery recs; they will revisit LN bx today
   - f/u cx
s, all cultures negative to date
   - f/u infectious serologies
   - continue to trend CBC
   - f/u cx from purulent material at RIJ
   .
   #. Shock: [**Month (only) 11**] be [**1-10**] presumed infection and cardiogenic (acute MR, afib
   with RVR) insult.  High mixed venous saturations suggest predominantly
   septic physiology.  Now off neo, still on Levophed. On [**12-12**] Renal team
   argues a role for leaky capillary syndrome, reccomends pressors over
   IVF for pressure management.  MAP on [**12-12**] is 85.
   - cont levophed to keep MAP > 65; given very high MAP, it is time to
   either wean or use pressure window for diuresis/ultrafiltration
   - monitor CVP (goal > 10, cautious fluid bolus prn), Mixed venous sat
   (goal > 70%), lactate and UOP
   - daily surveillance blood cx
   - continue empiric antibiotic coverage with IV
   Vanc/Meropenem/Doxycycline
   .
   .
   # Respiratory failure: Likely from pulmonary edema in the setting of
   severe MR and heart failure.  Pneumonia is also possible given opacity
   in LLL.  Possibly leaky capillary syndrome. Patient intubated on[**12-7**]
   in context of respiratory distress. Sputum culture negative for
   infections. Today is Vent day 7, on CMV
   - continue current abx (vanc, meropenem, doxy) for broad coverage
   - daily CXR
   - f/u sputum cx, AFB, PCP and fungal cx
   - need to rule out PE when pt can get IV contrast
   .
   # PUMP: History of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema), but repeat TTE
   showed normal EF (>60%). Patient also with known MR [**First Name (Titles) 43**] [**Last Name (Titles) 10178**] tear at
   posterior leaflet of mitral valve, likely contributing to worsening MR
   which may be causing overestimation of EF.
   .
   # RHYTHM: Pt goes in and out of AF frequently.  Infection is possible
   cause, but may also be worsened MR (although LA is not significantly
   dilated).  TSH normal.
   - Continue PO amiodarone 200mg [**Hospital1 **]
   - hold nodal agents in the setting of hypotension
   - continue heparin gtt for now.
   .
   # Elevated alk phos and GGT: pt w/o abdominal pain on admission. RUQ US
   showed no significant abnormalities, no biliary obstruction.  CT showed
   no significant hepatobiliary abnormalities.
   - continue to trend
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations. However, MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA
   .
   #. Hyponatremia: Improving.  Pt was intravascularly dry on admission,
   so initially hyponatremia was thought to be [**1-10**] hypovolemia, now
   patient euvolemic.
   - Continue to trend
   - NS if UOP is low
   .
   #. Anemia: Normocytic, normochromic with normal RDW. Fe studies c/w ACD
   s/p 2u pRBC
s.  Retic 1.5, indicating poor bone marrow response.  B12
   and folate normal.
   - Trend HCT
   .
   #Glaucoma:
   - continue home medications
   .
   #Hypothyroidism - TSH 3.3
   - Continue home levothyroxine dose.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-12-12**] 01:30 PM
   Multi Lumen - [**2129-12-12**] 04:00 PM
   Prophylaxis:
   DVT:  On heparin gtt
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   Medical Decision Making
   She wiggled her toes on command today! Cr much improved, now diuresing
   with an IV lasix drip.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-13**] 15:28 ------

2129-12-14 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-13**]:
   - Prelim catheter tip cx -- no significant growth
   - Prelim wound cx -- 1+ PMN's, no bacteria
   - Vanc D/C'd per ID
   - switched to PO Doxy to minimize excess IVF's
   - net even I/O's by 10:30PM; 1 litre negative by 0652
   History obtained from Medical records
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-13**] 09:15 AM
   Meropenem - [**2129-12-13**] 11:52 AM
   Doxycycline - [**2129-12-13**] 04:00 PM
   Infusions:
   Norepinephrine - 0.11 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-12-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-14**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 110 (102 - 121) bpm
   BP: 90/44(60) {88/43(57) - 147/78(98)} mmHg
   RR: 14 (7 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.4 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 13 (12 - 15)mmHg
   Total In:
                                                                  2,007 mL
                                                                    487 mL
   PO:
   TF:
                                                                    506 mL
                                                                    293 mL
   IVF:
                                                                  1,451 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                  1,345 mL
   Urine:
                                                                  2,465 mL
                                                                  1,345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -458 mL
                                                                   -858 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/36/113/22/0
   Ve: 15 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Gen: Intubated; furrows brow, wiggles toes, not fingers. Does not
   wiggle toe when asked to indicate
   HEENT: thick secreations with bloody tinge. Oral airway and ETT in
   place. Ulcerated lips
   CARD: irreg, tachy, 3/6 systolic murmur
   RESP: rhonchorous breath sounds bilaterally
   Abdomen: edematous
   Ext: anasarca with fluid weeping from puncture sites
   Peripheral Vascular:  All pulses bounding (2+). Right radial line
   Skin:  Not assessed
   Neurologic:  see above; pupils ERRL, however Left pupil re-dilates in
   the light
   Labs / Radiology
   196 K/uL
   10.4 g/dL
   141 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.3 mEq/L
   53 mg/dL
   103 mEq/L
   133 mEq/L
   30.7 %
   22.7 K/uL
        [image002.jpg]
                             [**2129-12-11**]  05:13 PM
                             [**2129-12-11**]  05:51 PM
                             [**2129-12-12**]  04:01 AM
                             [**2129-12-12**]  04:17 AM
                             [**2129-12-12**]  11:35 AM
                             [**2129-12-13**]  05:25 AM
                             [**2129-12-13**]  05:39 AM
                             [**2129-12-13**]  08:15 PM
                             [**2129-12-14**]  03:51 AM
                             [**2129-12-14**]  04:42 AM
   WBC
   37.9
   36.2
   29.0
   22.7
   Hct
   33.5
   32.5
   32.5
   30.7
   Plt
   [**Telephone/Fax (3) 10240**]96
   Cr
   1.4
   1.3
   1.1
   1.0
   1.0
   TCO2
   22
   23
   22
   22
   25
   Glucose
   159
   159
   143
   150
   141
   Other labs: PT / PTT / INR:13.2/77.8/1.1, ALT / AST:15/34, Alk Phos / T
   Bili:141/0.5, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:11.0 %,
   Mono:5.0 %, Eos:2.0 %, Lactic Acid:1.8 mmol/L, Albumin:1.7 g/dL,
   LDH:337 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Microbiology: Toxo IgM negative
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and new afib with RVR. She is improving with less pressor
   requirements and improving leukocytosis, concerning for septic shock
   despite no positive cultures and a CT demonstrating diffuse
   lymphadenopathy with pulmonary nodules.
   .
   #. Fluid overload: Anasarca [**1-10**] fluid imbalance. Urine output improving
   (100/hr on rounds) from 27 o/n. The fluid is from hypoalbuminemia, CHF,
   and leaky capillaries, either from septic physiology for idiopathically
   ([**Last Name (un) 10210**] syndrome). On [**11-22**] she met her goal diuresis with UOP
   150-200 and is now at 10 mg/hr lasix drip.
   PLAN FOR [**12-14**]
   -          Goal diuresis is 1-1.5 litres is q24 hours
   -          continue lasix drip at 10/hr, up or downtitrating with an
   eye on pressures, electrolytes and renal function (all stable)
   -          goal CVP is 10, at 13 at present. Balance pressors and
   diuretics with CVP goals
   -          MAP goal is 65, ranging 60-71 is acceptable with dynamic
   pressor manipulation
   -          can ultrafiltrate if lasix doesn
t work
   -          if leaky capillary syndrome, then lasix/ultrafiltration or
   terbutaline/Aminophylline
   .
   # Neurologic status: evolving. Wiggled toes on [**12-13**]. Still likely
   related to poor clearance of sedatives. If no resolution, then
   considering CT head or LP.
   -          follow
   -          OT consult for mobility
   .
   #.FUO, Leukocytosis & Diffuse lymphadenopathy: WBC trending down, 29
   (2% bands) this AM. CT scan demonstrated diffuse lymphadenopathy &
   pulmonary nodules. Etiology may be infection (e.g. pneumonia,
   endocarditis) but negative urine, sputum, blood cultures, flu negative
   at OSH, and RF normal. ID felt presentation was unlikely to be
   infectious, but as could not exclude, recommended CMV/EBV/HIV,
   anaplasma, rickettsial serologies. All serologies sent except for an
   HIV test as patient is unable to consent. Acute CMV, EBV, Toxo
   negative. Respiratory viral panel is negative. UCx negative. Cdiff neg.
   ID also indicated Doxycycline was unlikely to harm patient so
   Doxycycline started on [**2129-12-10**] for any possible rickettsial illness. PPD
   placed on [**2129-12-11**] is negative as of [**2129-12-13**] (though anasarca makes
   interpretation difficult.).  Could also be possible neoplasm given CT
   scan & diff demonstrating immature myelocytes, but not able to confirm
   with tissue at this time as General Surgery declined LN biopsy. On [**12-13**],
   they will reassess LN Bx. A peripheral smear as read by Heme/Onc was
   without clear etiology and the team did not feel this was likely to
   represent lymphoma.  ESR and CRP significantly elevated.  Had 8 days of
   Vanc d/c on [**12-13**]. On Meropenem, day 7 (switched to TID), Doxycycline,
   day 7 (switched to oral on [**12-13**]). Central venous access resited to LIJ
   from RIJ on [**12-12**].
   - continue [**Last Name (un) **] and doxy; want to d/c abx. Want to sent 10 days of
   empiric therapy as goal.
   - f/u any daily Heme/Onc recs
   - f/u any daily ID recs
   - f/u any daily G Surgery recs; they will biopsy if "recovers from
   acute event"
   - f/u cx
s, all cultures negative to date
   - f/u infectious serologies
   - continue to trend CBC
   - f/u cx from purulent material at RIJ
   .
   # Resolving acute Renal failure:
    Improving significantly.  Cr 1.2 on admission, 1.0 today.  Likely
   pre-renal with overlying ATN.  Renal following.  Family is ok with HD
   in emergent situation. Patient with volume overload, metabolic acidosis
   resolved, no significant electrolyte abnormalities & UOP ranging
   150-200/hr up from 30-40cc/hr and just under 30 on [**12-12**]. Renal
   reccomends pressors over IVF for pressure management. Patient is on a
   lasix drip
   -  diurese or ultrafiltrate given overload, as above
    - Trend creatinine
   -  Goal UOP >30cc/hr, patient well above
   - f/u renal recs
   .
   #. Shock: [**Month (only) 11**] be [**1-10**] presumed infection and cardiogenic (acute MR, afib
   with RVR) insult.  High mixed venous saturations suggest predominantly
   septic physiology.  Now off neo, still on Levophed. On [**12-12**] Renal team
   argues a role for leaky capillary syndrome, reccomends pressors over
   IVF for pressure management.  MAP on [**12-14**] is 60-71. Tolerating diuresis
   as of [**12-14**]
   - continue pressors with constant aim to minimize
   - cont lasix
   - monitor CVP (goal > 10, cautious fluid bolus prn), Mixed venous sat
   (goal > 70%), lactate and UOP
   - daily surveillance blood cx
   - continue empiric antibiotic coverage with IV Meropenem/Doxycycline.
   Consider d/c on Day 10
   .
   # Respiratory failure: Likely from pulmonary edema in the setting of
   severe MR and heart failure.  Pneumonia is also possible given opacity
   in LLL.  Possibly leaky capillary syndrome. Patient intubated on[**12-7**]
   in context of respiratory distress. Sputum culture negative for
   infections. PE remote possibility. Today is Vent day 8, on CMV
   - cont diuresis
   - continue current abx (vanc, meropenem, doxy) for broad coverage
   - daily CXR
   -  f/u sputum cx, AFB, PCP and fungal cx
   .
   # PUMP: History of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema), but repeat TTE
   showed normal EF (>60%). Patient also with known MR [**First Name (Titles) 43**] [**Last Name (Titles) 10178**] tear at
   posterior leaflet of mitral valve, likely contributing to worsening MR
   which may be causing overestimation of EF.
   - diuresis
   .
   # RHYTHM: Pt goes in and out of AF frequently.  Infection is possible
   cause, but may also be worsened MR (although LA is not significantly
   dilated).  TSH normal.
   - Continue PO amiodarone 200mg [**Hospital1 **]
   - hold nodal agents in the setting of hypotension
   - continue heparin gtt for now.
   .
   # Elevated alk phos and GGT: pt w/o abdominal pain on admission. RUQ US
   showed no significant abnormalities, no biliary obstruction.  CT showed
   no significant hepatobiliary abnormalities. Elevated Alk Phos (mild)
   with GGT implies infiltrative vs toxic insult to biliary tree (drugs,
   infection, gastrointestinal endotoxins) vs arterial hepatopathy
   - continue to trend
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations. However, MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA
   .
   #. Hyponatremia: Improving.  Pt was intravascularly dry on admission,
   so initially hyponatremia was thought to be [**1-10**] hypovolemia, now
   patient hypervolemic
   - Continue to trend, respond to acute changes
   .
   #. Anemia: Normocytic, normochromic with normal RDW. Fe studies c/w ACD
   s/p 2u pRBC
s.  Retic 1.5, indicating poor bone marrow response.  B12
   and folate normal.
   - Trend HCT
   .
   #Glaucoma:
   - continue home medications
   .
   #Hypothyroidism - TSH 3.3
   - Continue home levothyroxine dose.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-13**] 12:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-12-12**] 01:30 PM
   Multi Lumen - [**2129-12-12**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   Medical Decision Making
   Urine ouput greatly improved. Cr down to 1.  She is now mobilizing
   volume overlaod. She now responds to questions at times. CXR improved.

2129-12-15 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2129-12-14**] 01:00 PM
 BLOOD CULTURED - At [**2129-12-14**] 01:00 PM
   from Art line
 BLOOD CULTURED - At [**2129-12-14**] 03:59 PM
   From left IJ triple lumen catheter
 SPUTUM CULTURE - At [**2129-12-14**] 06:00 PM
   - I/O goal -1 to -1.5L
   - mental status improving
   - RSBI at 115; spent 2.5 hours on DSV, beautiful ABG at 4pm, began to
   tire (high RR), put back on CMV for 14 rr
   - ID recs on [**Last Name (un) **] and doxy: no recs
   - nutrition recs: more concentrated TF to reduce fluid
   - complained of dry eyes
   - babesia, ehrlichia x 2, aspergillus all negative. B-Glucan weakly
   positive but possibly false as patient received zosyn (cross-reactive)
   - MAPs around 55-60 while sleeping, norepi at 0.12. Urine output 100/hr
   on 2.5/hr lasix since 1am
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-13**] 09:15 AM
   Doxycycline - [**2129-12-13**] 04:00 PM
   Meropenem - [**2129-12-15**] 04:00 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Furosemide (Lasix) - 2.5 mg/hour
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-12-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-15**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 109 (96 - 121) bpm
   BP: 111/44(66) {93/30(46) - 111/44(66)} mmHg
   RR: 25 (22 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92.4 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 12 (12 - 15)mmHg
   Total In:
                                                                  1,814 mL
                                                                    447 mL
   PO:
   TF:
                                                                    902 mL
                                                                     75 mL
   IVF:
                                                                    693 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  3,705 mL
                                                                    750 mL
   Urine:
                                                                  3,555 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,891 mL
                                                                   -303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 417 (411 - 444) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/36/116/24/2
   Ve: 12 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Gen: Intubated; furrows brow, wiggles toes, squeeze hands.
   HEENT: thick yellowish secreations. Oral airway and ETT in place.
   Ulcerated lips
   CARD: irreg, tachy, 3/6 systolic murmur
   RESP: rhonchorous breath sounds bilaterally
   Abdomen: positive BS, edematous
   Ext: anasarca with fluid weeping from skin
   Peripheral Vascular:  All pulses bounding (2+). Right radial line
   Skin:  no rash, anasarca with fluid weeping from skin
   Neurologic:  following commands by squeezing hands, opening eyes and
   wiggling toes
   Labs / Radiology
   266 K/uL
   9.9 g/dL
   144 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.1 mEq/L
   59 mg/dL
   103 mEq/L
   135 mEq/L
   29.7 %
   21.6 K/uL
        [image002.jpg]
                             [**2129-12-12**]  11:35 AM
                             [**2129-12-13**]  05:25 AM
                             [**2129-12-13**]  05:39 AM
                             [**2129-12-13**]  08:15 PM
                             [**2129-12-14**]  03:51 AM
                             [**2129-12-14**]  04:42 AM
                             [**2129-12-14**]  03:25 PM
                             [**2129-12-14**]  03:31 PM
                             [**2129-12-15**]  05:34 AM
                             [**2129-12-15**]  05:47 AM
   WBC
   29.0
   22.7
   21.6
   Hct
   32.5
   30.7
   29.7
   Plt
   [**Telephone/Fax (3) 10273**]
   Cr
   1.1
   1.0
   1.0
   1.0
   1.0
   TCO2
   22
   22
   25
   25
   26
   Glucose
   143
   150
   141
   147
   144
   Other labs: PT / PTT / INR:13.8/71.8/1.2, ALT / AST:15/34, Alk Phos / T
   Bili:141/0.5, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:11.0 %,
   Mono:5.0 %, Eos:2.0 %, Lactic Acid:1.8 mmol/L, Albumin:1.7 g/dL,
   LDH:337 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.9 mg/dL
   MICRO:
[**2129-12-10**]: VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Final [**2129-12-14**]):
      HERPES SIMPLEX VIRUS TYPE 1.
         CONFIRMED BY MONOCLONAL FLUORESCENT ANTIBODY.
   Blood cx ([**12-14**]): pending
   Urine cx ([**12-14**]): pending
   Sputum cx ([**12-14**]): pending
   b-glucan positive, galactomannan negative
   tularemia serology: pending
   lyme: pending
   IMAGING:
   CXR: stable
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and new afib with RVR. She is improving with less pressor
   requirements and improving leukocytosis, concerning for septic shock
   despite no positive cultures and a CT demonstrating diffuse
   lymphadenopathy with pulmonary nodules.
   .
   # Respiratory failure: Likely from sepsis-associated vasodilatation and
   leaky capillaries, pulmonary edema in the setting of severe MR and
   heart failure, and the fluid resuscitation she received earlier.
   Pneumonia is also possible but sputum cx has been negative.  Patient
   intubated on[**12-7**] in context of respiratory distress. PE remote
   possibility. Patient was briefly on CPAP (setting: [**11-12**]) yesterday
   ([**12-14**]), but breathing at 31-33 breaths per minute, so was put back on AC
   mode.  Barriers to extubation include pulmonary edema, de-conditioning,
   secretions and plugging, and  anxiety.   Per RT, pt has less secretions
   but still required [**3-13**] suctions overnight last night.  RSBI 81 this
   morning.
   - continue AC mode, try CPAP again today
   - reassurance to patient to reduce anxiety, can try a small dose versed
   if very anxious
   - cont diuresis, currently on lasix gtt at 2.5mg /hr
   - continue current abx (meropenem, doxy) for broad coverage
   - daily CXR
   - f/u sputum cx, AFB cx
   .
   # FUO, Leukocytosis & Diffuse lymphadenopathy: WBC trending down, 21.6
   this AM. CT scan demonstrated diffuse lymphadenopathy & pulmonary
   nodules.  Etiology may be infection (e.g. viral, pneumonia,
   endocarditis).  HSV positive, so this is possibly generalized HSV
   infection.  Other infectious etiologies have been negative, including
   negative urine, sputum, blood cultures, flu negative at OSH, and RF
   normal. ID felt presentation was unlikely to be infectious, but as
   could not exclude, recommended CMV/EBV/HIV, anaplasma, rickettsial
   serologies. All serologies sent except for an HIV test as patient is
   unable to consent. Acute CMV, EBV, Toxo negative. Respiratory viral
   panel is negative. UCx negative. Cdiff neg. ID also indicated
   Doxycycline was unlikely to harm patient so Doxycycline started on
   [**2129-12-10**] for any possible rickettsial illness. PPD placed on [**2129-12-11**] is
   negative as of [**2129-12-13**] (though anasarca makes interpretation
   difficult.).  Could also be possible neoplasm given CT scan & diff
   demonstrating immature myelocytes, but not able to confirm with tissue
   at this time as General Surgery declined LN biopsy. However, they will
   reassess LN Bx. A peripheral smear as read by Heme/Onc was without
   clear etiology and the team did not feel this was likely to represent
   lymphoma.  ESR and CRP significantly elevated.  Had 8 days of Vanc d/c
   on [**12-13**]. On Meropenem, day 8 (switched to TID), Doxycycline, day 6
   (switched to oral on [**12-13**]). Central venous access resited to LIJ from
   RIJ on [**12-12**].  cx from purulent material at RIJ and RIJ tip negative.
   - start acyclovir 400mg TID  today
   - continue [**Last Name (un) **] and doxy for now
   - f/u any daily ID recs
   - f/u any daily G Surgery recs; they will biopsy if "recovers from
   acute event"
   - f/u all other pending cx
   - continue to trend CBC
   .
   #. Shock: [**Month (only) 11**] be [**1-10**] presumed infection and cardiogenic (acute MR, afib
   with RVR) insult.  HSV positive, so this is possibly generalized HSV
   infection.  High mixed venous saturations suggest predominantly septic
   physiology.  Now off neo, still on Levophed. On [**12-12**] Renal team argues a
   role for leaky capillary syndrome, recommends pressors over IVF for
   pressure management.  Tolerating diuresis but levophed dose has to be
   increased yesterday ([**12-14**]).
   - start acyclovir today
   - continue pressors with constant aim to minimize IVF
   - cont lasix gtt at 2.5mg/hr
   - monitor CVP (goal > 10, cautious fluid bolus prn), Mixed venous sat
   (goal > 70%), lactate and UOP
   - f/u all cx
   - continueIV Meropenem/Doxycycline for now
   .
   #. Fluid overload: Anasarca [**1-10**] fluid imbalance. Urine output improving
   (100/hr on rounds) on lasix gtt 2.5mg /hr. The fluid is from
   hypoalbuminemia, CHF, and leaky capillaries from from septic
   physiology.
   -  Goal diuresis is -500cc today
   -  continue lasix drip at 2.5/hr, up or downtitrating with an eye on
   pressures, electrolytes and renal function (all stable)
   -  goal CVP is 10, at 12 at present. Balance pressors and diuretics
   with CVP goals
   -  MAP goal is 65, ranging 60-71 is acceptable with dynamic pressor
   manipulation
   -  if leaky capillary syndrome, then lasix/ultrafiltration or
   terbutaline/Aminophylline
   .
   # Neurologic status: Improving.  Following commands, wiggling toes and
   opening eyes to command on [**12-15**].
   - continue to follow
   - OT consult for mobility
   .
   # PUMP: History of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema), but repeat TTE
   showed normal EF (>60%). Patient also with known MR [**First Name (Titles) 43**] [**Last Name (Titles) 10178**] tear at
   posterior leaflet of mitral valve, likely contributing to worsening MR
   which causes overestimation of EF.
   - diuresis
   .
   # RHYTHM: Pt goes in and out of AF frequently.  Infection is possible
   cause, but may also be worsened MR (although LA is not significantly
   dilated).  TSH normal.
   - Continue PO amiodarone 200mg [**Hospital1 **]
   - hold nodal agents in the setting of hypotension
   - continue heparin gtt for now.
   .
   # Elevated alk phos and GGT: pt w/o abdominal pain on admission. RUQ US
   showed no significant abnormalities, no biliary obstruction.  CT showed
   no significant hepatobiliary abnormalities. Elevated Alk Phos (mild)
   with GGT implies infiltrative vs toxic insult to biliary tree (drugs,
   infection, gastrointestinal endotoxins) vs arterial hepatopathy
   - continue to trend
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations. However, MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA
   .
   # Acute Renal failure:  Resolved.  Cr 1.2 on admission, has been stable
   at 1.0 for a few days.  The etiology for acute renal failure likely
   pre-renal with overlying ATN.  Renal following.  Patient is on a lasix
   drip for diuresis.
   -  continue lasix gtt as above
    - Trend creatinine  [**Hospital1 **]
   -  Goal UOP >30cc/hr, patient well above
   -  f/u any renal recs
   .
   # Hyponatremia: Improving.  Na 135 today. Pt was intravascularly dry on
   admission, so initially hyponatremia was thought to be [**1-10**] hypovolemia,
   now patient hypervolemic.
   - continue lasix gtt
   - Continue to trend
   .
   # Anemia: Normocytic, normochromic with normal RDW. Fe studies c/w ACD
   s/p 2u pRBC
s.  Retic 1.5, indicating poor bone marrow response.  B12
   and folate normal.  Hct 29.7 today ([**12-15**]), stable.
   - Trend HCT daily
   .
   # Glaucoma:
   - continue home medications
   .
   # Hypothyroidism: TSH 3.3
   - Continue home levothyroxine dose
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-12-13**] 12:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-12-12**] 01:30 PM
   Multi Lumen - [**2129-12-12**] 04:00 PM
   Prophylaxis:
   DVT: Systemic anticoagulation: Heparin gtt
   Stress ulcer: H2 blocker
   VAP: VAP bundle
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed
   Code status: DNR (do not resuscitate)
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   Medical Decision Making
   Continues to diurese well. HSV + culture from lip, being put on
   acyclovir. Failed extubation attempt. Will diurese further.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-15**] 12:08 ------

2129-12-16 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HSV positive from lip swab, started on PO Acyclovir, ID recommends
   7-10d course
   - ID recs: continue [**Last Name (un) **] for a 14d course (last day [**12-21**]), doxy for 14d
   course (last day [**12-24**]).  ID signed off.
   - versed was given for agitation and increased RR, effective but BP
   dropped, and effect short-lived.  Tried low dose fentanyl, still very
   anxious.
   - on CPAP for 4hr, pt was tiring out, so changed back to AC
   - lasix gtt at 2.5mg/hr, goal I/O -500cc.  pm lytes great. lasix gtt
   continued.
   - secretions are thick and yellow, sputum cx sent
   - levophed down to 0.05 this AM
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-13**] 09:15 AM
   Doxycycline - [**2129-12-13**] 04:00 PM
   Meropenem - [**2129-12-16**] 04:04 AM
   Infusions:
   Furosemide (Lasix) - 2.5 mg/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-12-15**] 09:30 AM
   Fentanyl - [**2129-12-15**] 11:45 AM
   Midazolam (Versed) - [**2129-12-15**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2129-12-16**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.2
   HR: 104 (95 - 111) bpm
   BP: 118/56(76) {82/42(57) - 120/56(76)} mmHg
   RR: 23 (23 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 89.9 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 13 (10 - 13)mmHg
   Total In:
                                                                  1,938 mL
                                                                    525 mL
   PO:
   TF:
                                                                    592 mL
                                                                    217 mL
   IVF:
                                                                    996 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,835 mL
                                                                    800 mL
   Urine:
                                                                  2,685 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -897 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 456 (406 - 456) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 17 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/35/119/28/4
   Ve: 10.1 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: Overweight / Obese woman, lying on back, sleeping,
   NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, intubated
   Cardiovascular: (S1: Normal), (S2: Normal), Irregular rate & rhythm, no
   murmurs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Bronchial breath sounds throughout anterior chest
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, improved from yesterday, wrinkles evident in skin
   bilaterally & in upper extremities, but anasarca still present notably
   in the hands
   Skin:  Not assessed, lip lesions still crusted, but stable
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   319 K/uL
   9.8 g/dL
   142 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.6 mEq/L
   52 mg/dL
   105 mEq/L
   139 mEq/L
   29.7 %
   18.7 K/uL
        [image002.jpg]
                             [**2129-12-14**]  04:42 AM
                             [**2129-12-14**]  03:25 PM
                             [**2129-12-14**]  03:31 PM
                             [**2129-12-15**]  05:34 AM
                             [**2129-12-15**]  05:47 AM
                             [**2129-12-15**]  09:34 AM
                             [**2129-12-15**]  03:40 PM
                             [**2129-12-15**]  03:41 PM
                             [**2129-12-16**]  05:27 AM
                             [**2129-12-16**]  05:40 AM
   WBC
   21.6
   18.7
   Hct
   29.7
   29.7
   Plt
   266
   319
   Cr
   1.0
   1.0
   0.9
   0.9
   TCO2
   25
   25
   26
   26
   27
   27
   Glucose
   147
   144
   153
   142
   Other labs: PT / PTT / INR:13.3/104.6/1.1, ALT / AST:15/34, Alk Phos /
   T Bili:141/0.5, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:11.0 %,
   Mono:5.0 %, Eos:2.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL,
   LDH:337 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and new afib with RVR. She is improving with less pressor
   requirements and improving leukocytosis, concerning for septic shock
   despite no positive cultures and a CT demonstrating diffuse
   lymphadenopathy with pulmonary nodules.
   .
   # Respiratory failure: Likely from sepsis-associated vasodilatation and
   leaky capillaries, pulmonary edema in the setting of severe MR and
   heart failure, and the fluid resuscitation she received earlier.
   Patient intubated on[**12-7**] in context of respiratory distress.
   Pneumonia is possibility given thick secretions, so sputum cx sent on
   [**12-15**]. Preliminary results demonstrate 1+ GPC in pairs. PE remote
   possibility. Patient was on CPAP (setting: [**11-12**]) yesterday ([**12-15**]), for 4
   hours but was tiring out so put back on AC mode.  Unclear how much MR
   and [**Month/Day (4) 10178**] tear are contributing to overload, so will reassess with
   TTE today. Patient with RSBI 110 this morning, but RR improved to
   mid-to-high 20
s. Will reassess RSBI again this afternoon and trial
   CPAP. If patient does well & RSBI <100, can attempt extubation.
   - Repeat TTE
   - try CPAP again today, can attempt extubation is RSBI <100 & patient
   does well on CPAP
   - reassurance to patient to reduce anxiety, can continue with
   anxiolytics/sedatives for symptoms
   - Continue diuresis, currently on lasix gtt at 2.5mg /hr
   - Continue current abx (meropenem, doxy) for broad coverage
   - daily CXR
   - f/u final sputum cx, AFB cx
   .
   # FUO, leukocytosis & diffuse lymphadenopathy: WBC trending down, 18.7
   this AM. CT scan demonstrated diffuse lymphadenopathy & pulmonary
   nodules.  Etiology may be infection (e.g. viral, pneumonia,
   endocarditis).  HSV positive, but given clinical presentation, unlikely
   to be generalized HSV infection.  Other infectious etiologies have been
   negative, including negative urine, stool, sputum, blood cultures, flu
   negative at OSH, and RF normal. ID felt presentation was unlikely to be
   infectious, but as could not exclude, CMV/EBV/Toxo, anaplasma,
   rickettsial serologies all sent & negative. PPD negative. Prelim AFB
   negative. Given patient
s functional status, HIV consent could not be
   obtained. Respiratory viral panel is negative. Central venous access
   resited to LIJ from RIJ on [**12-12**].  Cx from purulent material at RIJ and
   RIJ tip negative. Sputum sent [**12-16**], prelim demonstrating 1+ for gram
   positive cocci in pairs. ID signed off as of [**12-16**]. Could also be
   possible neoplasm given CT scan & diff demonstrating immature
   myelocytes, but not able to confirm with tissue at this time as General
   Surgery declined LN biopsy.  A peripheral smear as read by Heme/Onc was
   without clear etiology and the team did not feel this was likely to
   represent lymphoma.  ESR and CRP significantly elevated.
   - Meropenem 500mg TID, day [**8-22**]
   - Doxycycline 100mg q12H, day [**6-21**]
   - Acyclovir 400mg TID, day [**1-18**]
   - f/u any daily G Surgery recs; they will biopsy if "recovers from
   acute event"
   - f/u all other pending cx
   - continue to trend CBC
   .
   #. Shock: [**Month (only) 11**] be [**1-10**] presumed infection and cardiogenic (acute MR, afib
   with RVR) insult.  High mixed venous saturations suggest predominantly
   septic physiology.  Remains on low dose Levophed, weaned to 0.05
   mcg/kg/min this AM. Renal recommended pressors over IVF for pressure
   management.  Tolerating diuresis well.
   - Attempt to completely wean Levophed today
   - Continue IV Meropenem/Doxycycline for now
   - Continue Lasix gtt at 2.5mg/hr
   - monitor CVP (goal > 10, cautious fluid bolus prn), Mixed venous sat
   (goal > 70%), lactate and UOP
   - f/u all cx
   .
   #. Fluid overload: Anasarca [**1-10**] fluid imbalance. Urine output strong
   (100/hr) on lasix gtt 2.5mg /hr. Fluid accumulation owed to
   hypoalbuminemia, chronic sCHF, and leaky capillaries from septic
   physiology.
   -  Goal diuresis is -750cc today
   -  continue lasix drip at 2.5/hr, up or downtitrating with an eye on
   pressures, electrolytes and renal function (all stable)
   -  goal CVP is 13 this AM. Balance pressors and diuretics with CVP
   goals
   -  MAP goal is 65, ranging 62-76
   .
   # Neurologic status: Improving.  Following commands, wiggling toes and
   opening eyes to command on [**12-15**]. This AM, sleepy.
   - Continue to follow
   - OT consult for mobility
   .
   # PUMP: History of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema), but repeat TTE
   showed normal EF (>60%). Patient also with known MR [**First Name (Titles) 43**] [**Last Name (Titles) 10178**] tear at
   posterior leaflet of mitral valve, likely contributing to worsening MR
   which causes overestimation of EF.
   - Repeat TTE today
   - Lasix gtt at 2.5/hr
   .
   # RHYTHM: Pt goes in and out of AF frequently.  Infection is possible
   cause, but may also be worsened MR (although LA is not significantly
   dilated).  TSH normal.
   - Continue PO Amiodarone 200mg [**Hospital1 **]
   - Holding nodal agents in the setting of hypotension, but can restart
   when pressors are weaned & bp
s tolerate
   - Continue heparin gtt for now
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations, but MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA
   .
   # Acute Renal failure:  Resolved, but originally thought to be
   pre-renal with overlying ATN.  Cr 1.2 on admission, 0.9 today.  BUN
   mildly improved from [**12-15**].  Patient  remains on a low dose Lasix drip
   for diuresis. Renal continues to follow.
   -  Continue lasix gtt at 2.5/hr
    - Trend Creatinine,  [**Hospital1 **]
   -  Goal UOP >30cc/hr, patient well above
   -  f/u any Renal recs
   .
   # Elevated alk phos and GGT: Now resolved per labs [**12-16**] AM.  Pt w/o
   abdominal pain. RUQ U/S & CT without significant hepatobiliary
   abnormalities. Mildly elevated but stable Alk Phos with GGT on
   admission may have been [**1-10**] infection that is now improving.
   .
   # Hyponatremia: Na 139 today. Pt with hypovolemic hyponatremia on
   admission, now euvolemic with extensive third-spacing & anasarca. Net
   negative ~1100cc over past 24 hours. Cr stable.
   - Continue Lasix gtt at 2.5/hr
   - Continue to trend
   .
   # Anemia: Normocytic, normochromic with normal RDW. Fe studies c/w ACD
   s/p 2u pRBC
s.  Retic 1.5, indicating poor bone marrow response.  B12
   and folate normal.  Hct 29.7 today ([**12-16**]), stable.
   - Trend HCT daily
   .
   # Glaucoma:
   - continue home medications
   .
   # Hypothyroidism: TSH 3.3
   - Continue home levothyroxine dose
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-15**] 11:10 PM 30 mL/hour
   Glycemic Control:  none
   Lines:
   Arterial Line - [**2129-12-12**] 01:30 PM
   Multi Lumen - [**2129-12-12**] 04:00 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: Famotidine
   VAP:  No known infection, sputum pending, but Meropenem/Doxycycline for
   other presumed infection
   Comments:
   Communication:  Comments:  Patient & daughter ([**Name (NI) 142**] [**Last Name (NamePattern1) 1932**])
   Code status: Full code
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10179**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-22**] 10:12 ------

2129-12-17 07:07:00 Physician Resident Progress Note
Chief Complaint: weakness
   24 Hour Events:
   - Levophed weaned off
   - AC stopped, placed on pressure support (5/0) for 40 minutes before
   patient asked to put back on increased support ([**11-12**]), had family
   discussion, will attempt to extubate tomorrow
   - CXR demonstrated moderate left and small right pleural effusion
   worsened slightly since [**12-15**]
   - TTE unchanged from prior
   - Lasix gtt held at 5pm for HCO3 of 29, continued to put out ~100cc/hr
   - CVP down to 4-5 in the evening, but rebounded to 8, UOP steady
   throughout
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2129-12-16**] 08:00 AM
   Meropenem - [**2129-12-16**] 12:00 PM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-12-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-17**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 92 (92 - 105) bpm
   BP: 93/39(54) {75/32(45) - 124/52(74)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 8 (7 - 15)mmHg
   Total In:
                                                                  1,579 mL
                                                                    312 mL
   PO:
   TF:
                                                                    563 mL
                                                                    180 mL
   IVF:
                                                                    827 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                    540 mL
   Urine:
                                                                  2,690 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,611 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 338 (338 - 338) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.47/41/103/29/5
   Ve: 9.8 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Overweight / Obese woman, lying on back, Alert, NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, intubated
   Cardiovascular: (S1: Normal), (S2: Normal), Irregular rate & rhythm, no
   murmurs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Bronchial breath sounds throughout anterior chest
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+ but pulses palpable bilaterally, edema improved significantly
   from yesterday, wrinkles evident in all extremities, greater range of
   motion of hands & feet
   Skin:  Not assessed, lip lesions crusted with some mild bleeding of
   lower lip this AM
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   358 K/uL
   9.5 g/dL
   121 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.4 mEq/L
   45 mg/dL
   108 mEq/L
   141 mEq/L
   28.8 %
   16.1 K/uL
        [image002.jpg]
                             [**2129-12-15**]  09:34 AM
                             [**2129-12-15**]  03:40 PM
                             [**2129-12-15**]  03:41 PM
                             [**2129-12-16**]  05:27 AM
                             [**2129-12-16**]  05:40 AM
                             [**2129-12-16**]  12:41 PM
                             [**2129-12-16**]  03:30 PM
                             [**2129-12-16**]  03:42 PM
                             [**2129-12-17**]  03:43 AM
                             [**2129-12-17**]  03:52 AM
   WBC
   18.7
   16.1
   Hct
   29.7
   28.8
   Plt
   319
   358
   Cr
   0.9
   0.9
   0.8
   0.7
   TCO2
   26
   27
   27
   29
   29
   31
   Glucose
   153
   142
   129
   121
   Other labs: PT / PTT / INR:13.7/82.8/1.2, ALT / AST:[**10-28**], Alk Phos / T
   Bili:86/0.4, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:11.0 %,
   Mono:5.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL,
   LDH:203 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and new afib with RVR. She is improving with less pressor
   requirements and improving leukocytosis, concerning for septic shock
   despite no positive cultures and a CT demonstrating diffuse
   lymphadenopathy with pulmonary nodules.
   .
   # Respiratory failure: Likely from sepsis-associated vasodilatation and
   leaky capillaries, pulmonary edema in the setting of severe MR and
   heart failure, and the fluid resuscitation she received earlier.
   Patient intubated on [**12-7**] in context of respiratory distress.  Patient
   was on CPAP (setting: 5/0) yesterday ([**12-16**]), for 40 minutes but was
   tired and asked to be put back on higher pressure support at 12/5. She
   was switched back to AC overnight to maximize change of extubation
   today.  TTE from [**12-16**] unchanged from prior, chordae & degree of MR
   stable. Patient with RSBI 85 this morning, but RR improved to low 20
   - Attempt extubation
   - Continue current Abx (Meropenem, Doxy) for broad coverage
   - daily CXR
   - f/u final sputum cx, AFB cx
   .
   # FUO, leukocytosis & diffuse lymphadenopathy: WBC trending down, 16.1
   this AM. CT scan demonstrated diffuse lymphadenopathy & pulmonary
   nodules.  Etiology may be infection, but aside from HSV positive lip
   swab, extensive infectious work-up has been negative to date including
   negative urine, stool, sputum, blood cultures, respiratory panel,
   serologies (CMV/EBV/Toxo, anaplasma, rickettsial serologies, PPD).
   Prelim AFB negative, flu negative at OSH, and RF normal. Line tip &
   line site cultures negative. ID felt presentation was unlikely to be
   infectious, but has improved on Abx. HIV not tested as consent could
   not be obtained. Sputum sent [**12-16**], prelim demonstrating 1+ for gram
   positive cocci in pairs. Could also be possible neoplasm given CT scan
   & diff demonstrating immature myelocytes, but smear not convincing and
   not able to confirm with tissue as General Surgery declined LN biopsy.
   Heme/Onc did not feel presentation was likely to represent lymphoma.
   - Meropenem 500mg TID, day [**9-21**]
   - Doxycycline 100mg q12H, day [**7-22**]
   - Acyclovir 400mg TID, day [**2-15**]
   - f/u any daily G Surgery recs; they will biopsy if "recovers from
   acute event"
   - f/u all other pending cx
   - continue to trend CBC
   .
   #. Shock: Nearly resolved, but thought to be [**1-10**] presumed infection and
   cardiogenic (acute MR, afib with RVR) insult.  Pressors weaned
   completely on [**12-16**]. Renal recommended pressors over IVF for pressure
   management.  Self-diuresing well.
   - Continue IV Meropenem/Doxycycline for now
   - monitor CVP (goal > 10), Mixed venous sat (goal > 70%), and UOP
   - f/u all outstanding cx
   .
   #. Fluid overload: Anasarca [**1-10**] fluid imbalance (multifactorial:
   hypoalbuminemia/chronic sCHF/
leaky capillary syndrome
) continues to
   improve. Lasix gtt held in context of mild contraction alkalosis. Urine
   output strong (100/hr) off Lasix gtt. Net negative >1800cc over past 24
   hours. CVP to single digits on [**12-16**] PM after pressors completely weaned,
   but UOP & SBP
s steady. MAP
s labile ranging 45-67 yesterday.
   -  Goal diuresis is -0.5-1.0L today
   -  Closely monitor electrolytes and renal function [**Hospital1 **]
   -  CVP goal >10
   -  MAP goal is 60-65
   -  Closely monitor CVP & MAP
s, if UOP drops off, consider restarting
   low dose Levophed
   .
   # PUMP: History of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema), but TTE on
   admission showed normal EF (>60%). Patient also with known MR [**First Name (Titles) 43**]
[**Last Name (Titles) 10322**]dae tear at posterior leaflet of mitral valve, likely contributing
   to worsening MR which causes overestimation of EF. Repeat TTE on [**12-16**]
   was unchanged from prior, but jet of MR was
better appreciate
 per
   interpretation.
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] consulted for evaluation of chordae tear, f/u recs
   .
   # RHYTHM: Pt goes in and out of AF frequently.  Infection is possible
   cause, but may also be worsened MR (although LA is not significantly
   dilated).  TSH normal.
   - Continue PO Amiodarone 200mg [**Hospital1 **]
   - Holding nodal agents in the setting of hypotension, but can restart
   if bp
s tolerate
   - Continue heparin gtt for now
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations, but MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA
   .
   # Neurologic status: Improving.  Following commands, wiggling toes and
   opening eyes to command on [**12-15**]. This AM, sleepy.
   - Continue to follow
   - OT consult for mobility
   .
   # Acute Renal failure:  Resolved, but originally thought to be
   pre-renal with overlying ATN.  Cr 1.2 on admission, 0.7 today.  BUN
   also improved from [**12-16**] at 45.  Lasix drip stopped on [**12-16**] PM due to
   rising HCO3, that is stable today with > 100cc/hr despite being off
   drip. Patient had previously been hyponatremic on admission that has
   resolved with fluid repletion, but Na continues to rise.  Renal
   continues to follow.
   - Trend Creatinine, HCO3, Na  [**Hospital1 **]
   -  Goal UOP >30cc/hr, patient well above
   -  f/u any Renal recs
   .
   # Elevated alk phos and GGT: Now resolved per labs [**12-16**] AM.  Pt w/o
   abdominal pain. RUQ U/S & CT without significant hepatobiliary
   abnormalities. Mildly elevated but stable Alk Phos with GGT on
   admission may have been [**1-10**] infection that is now improving.
   .
   # Anemia: Normocytic, normochromic with normal RDW. Fe studies c/w ACD
   s/p 2u pRBC
s.  B12 and folate normal.  Hct stable.
   - Trend HCT daily
   .
   # Glaucoma:
   - Continue home eye gtt
   .
   # Hypothyroidism: TSH 3.3
   - Continue home Levothyroxine
   ICU Care
   Nutrition: No TF
s for now pending extubation
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2129-12-12**] 01:30 PM
   Multi Lumen - [**2129-12-12**] 04:00 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: Famotidine
   VAP:  -
   Comments:
   Communication:  Patient & daughter
   [**Name (NI) 129**] status: DNR
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10179**].
   I would add the following remarks:
   Medical Decision Making
   She is extubated and breathing satisfactorily. Will reconsult CT
   surgery.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-17**] 10:34 ------

2129-12-18 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2129-12-17**] 09:40 AM
 NON-INVASIVE VENTILATION - START [**2129-12-17**] 03:15 PM
   - extubated, 99 on 50% facetent; within 60-90 minutes --> increase WOB
   - multiple tracheal suctions, atrovent nebs. Pt sats 96+ on 50-100%
   facetent.
   - family meetings held regarding re-intubation; pt indicates does not
   want re-intubation, family unsure. Ethics SW consulted, reiterates that
   it is patient's choice.
   - pulm consult: likely fluid status - start lasix bolus (60mg then 120
   mg), morphine, bipap and nitro drip --> treat as flash
   - ABG looking better on bipap
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2129-12-18**] 12:04 AM
   Meropenem - [**2129-12-18**] 04:00 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-17**] 05:00 PM
   Morphine Sulfate - [**2129-12-18**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-18**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.7
C (96.2
   HR: 105 (101 - 128) bpm
   BP: 90/42(59) {82/40(54) - 144/70(97)} mmHg
   RR: 30 (21 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 92 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 14 (8 - 34)mmHg
   Total In:
                                                                  1,017 mL
                                                                    350 mL
   PO:
   TF:
                                                                    180 mL
   IVF:
                                                                    657 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  2,017 mL
                                                                    475 mL
   Urine:
                                                                  1,717 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,000 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 472 (259 - 472) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.34/57/89.[**Numeric Identifier 433**]/29/2
   Ve: 4 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: lying on back, Alert, NAD, BiPAP in place
   Eyes / Conjunctiva: PERRL
   Cardiovascular: normal S1, S2, Irregular rate & rhythm, no murmurs
   Respiratory / Chest: Bronchial breath sounds throughout anterior chest
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+ but pulses palpable bilaterally, edema improved significantly
   from yesterday, wrinkles evident in all extremities, greater range of
   motion of hands & feet
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  lip lesions crusted
   Neurologic: Follows simple commands
   Labs / Radiology
   524 K/uL
   9.5 g/dL
   116 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.7 mEq/L
   51 mg/dL
   108 mEq/L
   143 mEq/L
   30.2 %
   15.5 K/uL
        [image002.jpg]
                             [**2129-12-17**]  03:43 AM
                             [**2129-12-17**]  03:52 AM
                             [**2129-12-17**]  09:25 AM
                             [**2129-12-17**]  11:01 AM
                             [**2129-12-17**]  03:00 PM
                             [**2129-12-17**]  03:39 PM
                             [**2129-12-17**]  05:10 PM
                             [**2129-12-17**]  08:01 PM
                             [**2129-12-18**]  05:36 AM
                             [**2129-12-18**]  05:53 AM
   WBC
   16.1
   15.5
   Hct
   28.8
   30.2
   Plt
   358
   524
   Cr
   0.7
   0.7
   0.8
   TCO2
   31
   29
   29
   27
   28
   30
   32
   Glucose
   121
   196
   116
   Other labs: PT / PTT / INR:14.5/82.8/1.3, ALT / AST:[**10-28**], Alk Phos / T
   Bili:86/0.4, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:11.0 %,
   Mono:5.0 %, Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.0 g/dL,
   LDH:203 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and new afib with RVR. She is improving with less pressor
   requirements and improving leukocytosis, concerning for septic shock
   despite no positive cultures and a CT demonstrating diffuse
   lymphadenopathy with pulmonary nodules.
   .
   # Respiratory failure: Likely from sepsis-associated vasodilatation and
   leaky capillaries, pulmonary edema in the setting of severe MR and
   heart failure, and the fluid resuscitation she received earlier.
   Patient intubated on [**12-7**] in context of respiratory distress.  Patient
   was on CPAP (setting: 5/0) yesterday ([**12-16**]), for 40 minutes but was
   tired and asked to be put back on higher pressure support at 12/5. She
   was switched back to AC overnight to maximize change of extubation
   today.  TTE from [**12-16**] unchanged from prior, [**Month/Day (4) 10178**] & degree of MR
   stable. Pt was extubated on [**12-17**], initially with respiratory distress,
   and per pulm, pt was treated as flash, she was treated lasix bolus,
   morphine, BiPAP and nitro gtt.  Pt improved with the treatment.
   Currently on BiPAP, pt does not want to be re-intubated.  ABG appears
   pt having more respiratory acidosis from hypoventilation.
   - continue face tent for now, BiPAP prn
   - lasix 120mg x 1 now
   - morphine prn for comfort
   - f/u pulm recs
   - pt does not want to be re-intubated, per ethics, this should be
   patient
s decision
   - Continue current Abx (Meropenem, Doxy, acyclovir) for broad coverage
   - f/u all cx, including final sputum cx, AFB cx
   .
   # FUO, leukocytosis & diffuse lymphadenopathy: WBC trending down
   steadily. CT scan demonstrated diffuse lymphadenopathy & pulmonary
   nodules.  Etiology may be infection, but aside from HSV positive lip
   swab, extensive infectious work-up has been negative to date including
   negative urine, stool, sputum, blood cultures, respiratory panel,
   serologies (CMV/EBV/Toxo, anaplasma, rickettsial serologies, PPD).
   Prelim AFB negative, flu negative at OSH, and RF normal. Line tip &
   line site cultures negative. ID felt presentation was unlikely to be
   infectious, but has improved on Abx. HIV not tested as consent could
   not be obtained. Could also be possible neoplasm given CT scan & diff
   demonstrating immature myelocytes, but smear not convincing and not
   able to confirm with tissue as General Surgery declined LN biopsy.
   Heme/Onc did not feel presentation was likely to represent lymphoma.
   - Meropenem 500mg TID, day [**10-22**]
   - Doxycycline 100mg q12H, day [**8-22**]
   - Acyclovir 400mg TID, day [**3-18**]
   - f/u any daily G Surgery recs; they will biopsy if "recovers from
   acute event"
   - f/u all other pending cx
   - continue to trend CBC
   .
   #. Shock: Pressors weaned completely on [**12-16**]. Thought to be [**1-10**] presumed
   infection and cardiogenic (acute MR, afib with RVR) insult.
   Self-diuresing well.
   - Continue IV Meropenem/Doxycycline/acyclovir for now
   - monitor CVP (goal > 10), Mixed venous sat (goal > 70%), and UOP
   - f/u all outstanding cx
   .
   #. Fluid overload: Anasarca [**1-10**] fluid imbalance (multifactorial:
   hypoalbuminemia/chronic sCHF/
leaky capillary syndrome
) continues to
   improve. Lasix gtt held in context of mild contraction alkalosis.
   -  Goal diuresis is -1.0L today, lasix 120mg IV x1 this am
   -  Closely monitor electrolytes and renal function [**Hospital1 **]
   -  CVP goal >10
   -  MAP goal is 60-65, if MAP <50, consider restarting low dose Levophed
   .
   # PUMP: History of chronic systolic heart failure, and pt
s presenting
   sx were consistent with failure (SOB, orthopnea, edema), but TTE on
   admission showed normal EF (>60%). Patient also with known MR [**First Name (Titles) 43**]
[**Last Name (Titles) 10322**] tear at posterior leaflet of mitral valve, likely contributing
   to worsening MR which causes overestimation of EF. Repeat TTE on [**12-16**]
   was unchanged from prior, but jet of MR was
better appreciate
 per
   interpretation.
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] consulted for evaluation of [**Last Name (NamePattern4) 10178**] tear, f/u recs
   .
   # RHYTHM: Pt goes in and out of AF frequently.  Infection is possible
   cause, but may also be worsened MR (although LA is not significantly
   dilated).  TSH normal.
   - Continue PO Amiodarone 200mg [**Hospital1 **]
   - Holding nodal agents in the setting of hypotension, but can restart
   if bp
s tolerate
   - Continue heparin gtt for now
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations, but MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA
   .
   # Neurologic status: Improving.  Following commands.
   - Continue to follow
   - OT consult for mobility
   .
   # Acute Renal failure:  Resolved, but originally thought to be
   pre-renal with overlying ATN.  Cr 1.2 on admission, 0.7 today.  BUN
   also improved from [**12-16**] at 45.  Lasix drip stopped on [**12-16**] PM due to
   rising HCO3, that is stable today with > 100cc/hr despite being off
   drip. Patient had previously been hyponatremic on admission that has
   resolved with fluid repletion, but Na continues to rise.  Renal
   continues to follow.
   - Trend Creatinine, HCO3, Na  [**Hospital1 **]
   - goal I/O: -1L today, getting lasix 120mg IV x 1 this am
   -  f/u any Renal recs
   .
   # Elevated alk phos and GGT: Now resolved per labs [**12-16**] AM.  Pt w/o
   abdominal pain. RUQ U/S & CT without significant hepatobiliary
   abnormalities. Mildly elevated but stable Alk Phos with GGT on
   admission may have been [**1-10**] infection that is now improving.
   .
   # Anemia: Normocytic, normochromic with normal RDW. Fe studies c/w ACD
   s/p 2u pRBC
s.  B12 and folate normal.  Hct stable.
   - Trend HCT daily
   .
   # Glaucoma:
   - Continue home eye drops
   .
   # Hypothyroidism: TSH 3.3
   - Continue home Levothyroxine
   ICU Care
   Nutrition: TF
   Glycemic Control:  none
   Lines:
   Arterial Line - [**2129-12-12**] 01:30 PM
   Multi Lumen - [**2129-12-12**] 04:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PO famotidine
   VAP:  n/a
   Comments:
   Communication:  Comments:  daughter
   [**Name (NI) 129**] status: DNR/DNI
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-22**] 10:11 ------

2129-12-19 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2129-12-19**] 02:03 AM
   - s/p lasix 120mg IV x1, given 60mg IV lasix at midnight, not putting
   out much, so ordered another 120mg IV lasix
   - breathing more labored in the evening, ABG showed more respiratory
   acidosis as a result of hypoventilation (PaCO2 61), put pt on biPAP at
   7pm, lasted for 4 hours
   - ABG continued to show hypoventilation even on biPAP, thought to be
   due to loss of hypoxic respiratory drive (RR down to 10 when PaO2 was
   200), backed down on FiO2, then ABG looked better (PaCO2 54)
   - pt asked BiPAP to be removed at 11:30pm, did well.  wanted to drink
   gingerale. had a few sips.  then nurse was out of the room at 1am.
   came back at 1:30am, pt not answering questions, somnolent.  Stat ABG
   showed PaCO2 108, pH 7.12, acutely different from the prior gas. put pt
   back on BiPAP, gas improved, pH 7.32, paCO2 62.   Repeat gas showed
   paCO2 58 and pH 7.35.
   - TF restarted, but held again after being on BiPAP
   - Dr. [**First Name (STitle) **] from Csurg will come to see pt tomorrow
   - s/s ordered
   - spontaneously converted back to sinus rhythm at 10pm
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2129-12-19**] 12:01 AM
   Meropenem - [**2129-12-19**] 04:04 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-12-18**] 08:00 AM
   Furosemide (Lasix) - [**2129-12-19**] 03:03 AM
   Morphine Sulfate - [**2129-12-19**] 04:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-19**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 74 (73 - 117) bpm
   BP: 102/43(63) {82/38(56) - 130/56(81)} mmHg
   RR: 15 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.8 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 9 (6 - 24)mmHg
   Total In:
                                                                  2,645 mL
                                                                    426 mL
   PO:
                                                                    320 mL
                                                                     50 mL
   TF:
                                                                  1,200 mL
                                                                     29 mL
   IVF:
                                                                    765 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  2,514 mL
                                                                    710 mL
   Urine:
                                                                  2,514 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    131 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (0 - 450) mL
   Vt (Spontaneous): 279 (279 - 672) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.35/58/132/30/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: lying on back, Alert, NAD, BiPAP in place
   Eyes / Conjunctiva: PERRL
   Cardiovascular: normal S1, S2, regular rate & rhythm, 2/6 systolic
   murmur best heard at apex
   Respiratory / Chest: rhonchrous and crackles throughout anterior chest
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+ but pulses palpable bilaterally, edema improved significantly
   from yesterday, wrinkles evident in all extremities, greater range of
   motion of hands & feet
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  lip lesions crusted
   Neurologic: Follows commands
   Labs / Radiology
   554 K/uL
   9.0 g/dL
   179 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.2 mEq/L
   51 mg/dL
   108 mEq/L
   144 mEq/L
   28.9 %
   15.8 K/uL
        [image002.jpg]
                             [**2129-12-18**]  02:45 PM
                             [**2129-12-18**]  05:17 PM
                             [**2129-12-18**]  07:07 PM
                             [**2129-12-18**]  07:52 PM
                             [**2129-12-18**]  10:07 PM
                             [**2129-12-18**]  11:27 PM
                             [**2129-12-19**]  01:24 AM
                             [**2129-12-19**]  02:16 AM
                             [**2129-12-19**]  02:36 AM
                             [**2129-12-19**]  04:32 AM
   WBC
   15.8
   Hct
   28.9
   Plt
   554
   Cr
   0.8
   0.8
   TropT
   <0.01
   TCO2
   31
   31
   32
   34
   32
   37
   33
   33
   Glucose
   139
   179
   Other labs:
   PT / PTT / INR:14.5/85.8/1.3,
   CK / CKMB / Troponin-T:13//<0.01,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   CXR: from today (my read): slightly increased RLL opacity, consistent
   with worsening pleural effusion, atelectasis or aspiration.
   Assessment and Plan
   83 y.o woman with history of chronic systolic CHF with 2 week history
   of generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for management of her
   heart failure and new afib with RVR. She is improving with less pressor
   requirements and improving leukocytosis, concerning for septic shock
   despite no positive cultures and a CT demonstrating diffuse
   lymphadenopathy with pulmonary nodules.
   .
   # Hypercarbic respiratory distress: ABG reveals hypoventilation with
   rising CO2.  Given ventilation = RR x tidal volume, and her RR has been
   around 25-30, this hypoventilation is due to decreased tidal volume.
   Decreased muscle strength is the most likey etiology for decreased
   tidal volume.  Patient's oxygenation has been great, indicating that
   pulmonary edema which causes V/Q mismatch has not been a limiting issue
   from the respiratory stand point.   Pulmonary edema is likely from
   severe MR and heart failure, and the fluid resuscitation she received
   earlier. Patient intubated on [**12-7**] in context of respiratory
   distress.  Pt was extubated on [**12-17**].  She was on face tent most of the
   time on [**12-18**] but was tiring out so was put on BiPAP for about 4 hours.
   Her PaCO2 improved on BiPAP but didn't drop significantly because PaO2
   was too high to the 200s, she lost her hypoxic respiratory drive, and
   RR dropped to around 10. Patient was given lasix 120mg IV x1 yesterday,
   and 60mg IV lasix x 1 at midnight.
   - keep HOB elevated
   - continue BiPAP as needed
   - avoid PaO2 being too high
   - follow ABGs and respiratory status
   - give morphine cautiously as it may exacerbate hypoventilation
   - continue standing atrovent nebs
   - lasix 120mg x 1 today for I/O goal of -1L
   - pt does not want to be re-intubated, per ethics, this should be
   patient
s decision
   - Continue current Abx (Meropenem, Doxy, acyclovir) for broad coverage
   - f/u all cx, including final sputum cx, AFB cx
   - S/S eval today
   - continue TF when not on BiPAP
   - f/u Csurg recs today, Dr. [**First Name (STitle) **] will come by today to see pt
   .
   # FUO, leukocytosis & diffuse lymphadenopathy: WBC trending down
   steadily. CT scan demonstrated diffuse lymphadenopathy & pulmonary
   nodules.  Etiology may be infection, but aside from HSV positive lip
   swab, extensive infectious work-up has been negative to date including
   negative urine, stool, sputum, blood cultures, respiratory panel,
   serologies (CMV/EBV/Toxo, anaplasma, rickettsial serologies, PPD).
   Prelim AFB negative, flu negative at OSH, and RF normal. Line tip &
   line site cultures negative. ID felt presentation was unlikely to be
   infectious, but has improved on Abx. HIV not tested as consent could
   not be obtained. Could also be possible neoplasm given CT scan & diff
   demonstrating immature myelocytes, but smear not convincing and not
   able to confirm with tissue as General Surgery declined LN biopsy.
   Heme/Onc did not feel presentation was likely to represent lymphoma.
   - Meropenem 500mg TID, day [**11-21**],  Doxycycline 100mg q12H, day [**9-21**],
   Acyclovir 400mg TID, day [**4-17**]
   - f/u all other pending cx
   - continue to trend CBC
   .
   # PUMP/SEVERE MR: History of chronic systolic heart failure, and pt
   presenting sx were consistent with failure (SOB, orthopnea, edema), but
   TTE on admission showed normal EF (>60%). Patient also with known MR
   and chordae tear at posterior leaflet of mitral valve, likely
   contributing to worsening MR which causes overestimation of EF. Repeat
   TTE on [**12-16**] was unchanged from prior, but jet of MR was
better
   appreciate
 per interpretation.
   - [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] will see her today for evaluation of chordae tear, f/u recs
   .
   #. Shock: Pressors weaned completely on [**12-16**]. Thought to be [**1-10**] presumed
   infection and cardiogenic (acute MR, afib with RVR) insult.  On Lasix
   boluses with good BP.
   - Continue IV Meropenem/Doxycycline/acyclovir for now
   - monitor BP and UOP
   - f/u all outstanding cx
   .
   #. Fluid overload: Anasarca [**1-10**] fluid imbalance (multifactorial:
   hypoalbuminemia/chronic sCHF/
leaky capillary syndrome
), continues to
   improve. Patient diuresed well on lasix 120mg yesterday.
   -  Goal diuresis is -1.0L today, lasix 120mg IV x1 this am
   -  Closely monitor electrolytes and renal function [**Hospital1 **]
   -  CVP goal >10
   -  MAP goal is 60-65, if MAP <50, consider restarting low dose Levophed
   .
   # RHYTHM: Pt converted from Afib to sinus rhythm yesterday evening.  In
   terms of the etiologies of Afib, infection is possible cause, but may
   also be worsened MR (although LA is not significantly dilated).  TSH
   normal.
   - Continue PO Amiodarone 200mg [**Hospital1 **]
   - Holding nodal agents in the setting of hypotension, but can restart
   if bp
s tolerate
   - Continue heparin gtt for now
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations, but MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA
   .
   # Neurologic status: Improving.  Following commands.
   - Continue to follow
   - OT consult for mobility
   .
   # Acute Renal failure: Resolved.  Originally thought to be pre-renal
   with overlying ATN.  Lasix drip stopped on [**12-16**] PM due to rising HCO3.
   Patient had previously been hyponatremic on admission that has resolved
   with fluid repletion, but Na continues to rise.
   - Trend Creatinine, HCO3 and Na [**Hospital1 **]
   - goal I/O: -1L today, getting lasix 120mg IV x 1 this am
   - f/u any Renal recs
   .
   # Elevated alk phos and GGT: Now resolved per labs [**12-16**] AM.  Pt w/o
   abdominal pain. RUQ U/S & CT without significant hepatobiliary
   abnormalities. Mildly elevated but stable Alk Phos with GGT on
   admission may have been [**1-10**] infection that is now improving.
   .
   # Anemia: Normocytic, normochromic with normal RDW. Fe studies c/w ACD
   s/p 2u pRBC
s.  B12 and folate normal.  Hct stable.
   - Trend HCT daily
   .
   # Glaucoma:
   - Continue home eye drops
   .
   # Hypothyroidism: TSH 3.3
   - Continue home Levothyroxine
   ICU Care
   Nutrition:
   TF (when BiPAP is not in place)
   Glycemic Control:  none
   Lines:
   Arterial Line - [**2129-12-12**] 01:30 PM
   Multi Lumen - [**2129-12-12**] 04:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PO famotidine
   VAP:  n/a
   Comments:
   Communication:  Comments:  daughter
   [**Name (NI) 129**] status: DNR/DNI
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   Medical Decision Making
   She is having difficulty ventilating, not oxygenating. Causes include
   her effusion, trachemalacia ofter intubation, second hand smoking with
   a component of COPD and mechanical disadvantage from her body habitus.
   We will sit her up to improve mechanical advantage, use BiPAP. Surgery
   will discuss mitral repair, she does not seem amenable.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-19**] 10:33 ------

2129-12-20 06:51:00 Physician Resident Progress Note
Chief Complaint: weakness/fatigue
   24 Hour Events:
   - S&S: patient is aspirating, recommending NPO with ginger ale swabs,
   reevaluation in 3 days, continue TF's
   - CXR from [**12-19**] demonstrated: mild edema has improved in the right
   lung, not in the left.  Moderate left pleural effusion may have
   increased & atelectasis has worsened, reflected in leftward mediastinal
   shift.
   - taken off CPAP at 9AM, remained off all day
   - PM ABG with normal pH (respiratory acidosis with appropriate
   metabolic compensation) on 4L NC, turned down to 3L NC
   - Lasix 120mg IV x 1 repeated at 4pm
   - ordered for LENI's given ? of posterior tibial DVT from [**12-8**]
   - Csurg saw patient, no official recs yet
   - Dull abdominal pain @ 3AM & insomnia. +BS, soft, no guarding, no
   rebound. + recent BM. Repositioned, felt more comfortable. Given
   Morphine 1mg IV x 1, pain resolved, but only slept about 1 hour.
   - Asking to sit up on edge of bed
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2129-12-20**] 12:15 AM
   Meropenem - [**2129-12-20**] 04:00 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-19**] 05:20 PM
   Morphine Sulfate - [**2129-12-20**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-20**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 103 (76 - 114) bpm
   BP: 110/52(70) {80/33(52) - 123/61(74)} mmHg
   RR: 30 (18 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 90 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 6 (4 - 11)mmHg
   Total In:
                                                                  1,804 mL
                                                                    526 mL
   PO:
                                                                    100 mL
   TF:
                                                                    469 mL
                                                                    201 mL
   IVF:
                                                                    794 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  3,670 mL
                                                                    565 mL
   Urine:
                                                                  3,670 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,866 mL
                                                                    -39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 189 (189 - 189) mL
   PS : 0 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: 7.46/49/85.[**Numeric Identifier 433**]/33/9
   Ve: 8.1 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube in right nares
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Scattered
   rhonchi anteriorly with diminished breath sounds at bases bilaterally)
   Abdominal: Soft, Non-tender, Non-distended, No guarding or rebound,
   Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, Left upper extremity without edema, Right upper extremity
   with 2+ edema
   Skin:  lower lip lesions remain red & ulcerated, but significantly
   improved, without active bleeding or crusting
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   560 K/uL
   8.8 g/dL
   123 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.2 mEq/L
   50 mg/dL
   109 mEq/L
   148 mEq/L
   26.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2129-12-19**]  02:16 AM
                             [**2129-12-19**]  02:36 AM
                             [**2129-12-19**]  04:32 AM
                             [**2129-12-19**]  04:39 AM
                             [**2129-12-19**]  11:01 AM
                             [**2129-12-19**]  03:00 PM
                             [**2129-12-19**]  03:14 PM
                             [**2129-12-19**]  09:13 PM
                             [**2129-12-20**]  05:32 AM
                             [**2129-12-20**]  05:47 AM
   WBC
   15.8
   13.9
   10.9
   Hct
   28.9
   28.0
   26.9
   Plt
   554
   571
   560
   Cr
   0.8
   0.8
   0.9
   0.8
   TropT
   <0.01
   TCO2
   33
   33
   33
   35
   36
   36
   Glucose
   179
   100
   117
   123
   Other labs: PT / PTT / INR:14.0/76.3/1.2, CK / CKMB /
   Troponin-T:13//<0.01, ALT / AST:[**10-28**], Alk Phos / T Bili:86/0.4,
   Differential-Neuts:79.0 %, Band:2.0 %, Lymph:11.0 %, Mono:5.0 %,
   Eos:2.0 %, Lactic Acid:0.7 mmol/L, Albumin:2.1 g/dL, LDH:203 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   83 y.o woman with chronic systolic CHF with 2 week history of
   generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for heart failure and new
   afib with RVR. She is improving after intubation requiring pressors and
   a marked leukocytosis, concerning for septic shock despite no positive
   cultures and a CT demonstrating diffuse lymphadenopathy with pulmonary
   nodules.
   .
   # Respiratory distress: ABG reveals mild metabolic alkalosis
   (contraction) with partial respiratory compensation.  RR remains in mid
   20
s to upper 30
s on 3L O2 by NC with adequate oxygenation all day
   yesterday.  The inadequate respiratory compensation may reflect
   hyperventilation triggered by pulmonary stretch receptors from
   pulmonary edema/MR. [**Name13 (STitle) **] received Lasix 120mg IV x 2 yesterday with
   resulting net negative 1900cc. Cardiac surgery saw patient yesterday,
   verbally expressed interest in intervention, but no written recs yet.
   - keep HOB elevated
   - follow ABGs and respiratory status
   - continue standing Atrovent nebs
   - I/O goal of -1L
   - Complete Abx (Meropenem, Doxy, Acyclovir) regimen
   - continue TF
s if off CPAP
   .
   # Presumed septic shock & diffuse lymphadenopathy: Thought to be [**1-10**]
   presumed infection and cardiogenic (acute MR, afib with RVR) insult.
   Off pressors since [**12-16**]. WBC still trending down, today 10.9. CT scan
   demonstrated diffuse lymphadenopathy & pulmonary nodules.  Etiology may
   be infection, but aside from HSV positive lip swab, extensive
   infectious work-up has been negative to date.  ID felt presentation was
   unlikely to be infectious, but has improved on Abx. HIV not tested as
   consent could not be obtained.  Heme/Onc did not feel presentation was
   likely to represent lymphoma.
   - Meropenem 500mg TID, day 13/14,  Doxycycline 100mg q12H, day [**10-22**],
   Acyclovir 400mg TID, day [**5-18**]
   - f/u all other pending blood cx
   - continue to trend CBC
   .
   # PUMP/SEVERE MR: History of chronic systolic heart failure, and
   patient
s initial sx were consistent with failure (SOB, orthopnea,
   edema), but TTE on admission showed normal EF (>60%). Patient also with
   known MR [**First Name (Titles) 43**] [**Last Name (Titles) 10178**] tear at posterior leaflet of mitral valve, likely
   contributing to worsening MR which causes overestimation of EF. Repeat
   TTE on [**12-16**] was unchanged from prior, but jet of MR was
better
   appreciated
 per interpretation.
   - TTE today per verbal Csurg recs
   - F/U additional Csurg recs
   .
   #. Fluid overload: Anasarca [**1-10**] fluid imbalance (multifactorial:
   hypoalbuminemia/chronic sCHF/
leaky capillary syndrome
), continues to
   improve. Patient continues to diurese well on IV Lasix. CVP
s < 10
   yesterday after PM Lasix dose, but UOP remained strong overnight and
   patient mobilizing fluid into intravascular space well. Also with
   mildly elevated serum Na and HCO3 that may represent a contraction
   alkalosis.
   -  Goal diuresis is -1.0L today. Will exercise caution to maintain CVP
   ~ 10 & regulate electrolytes today.
   -  Closely monitor electrolytes and renal function [**Hospital1 **]
   -  Daily CXR
   -  CVP goal >10
   -  MAP goal is 60-65
   .
   # RHYTHM: Pt converted from sinus rhythm back to AF yesterday evening.
   Fluid shifts may be responsible, but MR is likely contributing although
   LA is not significantly dilated given prominent regurgitant jet.  TSH
   normal.
   - Continue PO Amiodarone 200mg [**Hospital1 **]
   - Holding nodal agents in the setting of hypotension, but can restart
   if bp
s tolerate
   - Continue heparin gtt for now
   .
   # Hypernatremia/Elevated Serum Bicarbonate: Patient originally with ARF
   thought to be pre-renal with overlying ATN that has now resolved.
   Patient had previously been hyponatremic on admission that resolved
   with fluid repletion, but Na & HCO3 now slightly elevated in context of
   Lasix use.
   - Trend Creatinine, HCO3 and Na [**Hospital1 **]
   - goal I/O: -1L today
   - f/u any Renal recs
   .
   # ? Right LE DVT: Patient placed on Heparin gtt due to LENI
s performed
   on [**12-8**] demonstrating a possible old DVT in the right posterior tibial
   veins (normal compression, but no appearance of flow). Given patient
   functional status over the past two weeks, this was unable to be
   further assessed.
   - Bilateral LENI
s today to evaluate for DVT if can be done at bedside
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations, but MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA
   .
   # Neurologic status: Improving.  Following commands.
   - Continue to follow
   - OT consult for mobility
   .
   # Anemia: Normocytic, normochromic with normal RDW. Fe studies c/w ACD
   s/p 2u pRBC
s.  B12 and folate normal.  Hct stable.
   - Trend HCT daily
   .
   # Glaucoma:
   - Continue home eye drops
   .
   # Hypothyroidism: TSH 3.3
   - Continue home Levothyroxine
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-19**] 09:20 AM 30 mL/hour
   Glycemic Control:  none
   Lines:
   Arterial Line - [**2129-12-12**] 01:30 PM
   Multi Lumen - [**2129-12-12**] 04:00 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: none
   VAP:  none
   Communication:  Patient & patient
s daughter
   [**Name (NI) 129**] status: DNR
   Disposition: pending improvement of respiratory status/evaluation for
   cardiac surgery
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10179**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-20**] 15:23 ------

2129-12-21 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - family meeting held: patient does not want surgery yet
   - Gases and lytes looking increasingly alkalotic
   - urinated 400 cc/hr for 2 hours after lasix; UOP down to 25 at 0100.
   - patient not sleeping, received total of 50 mg trazodone
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2129-12-21**] 12:00 AM
   Meropenem - [**2129-12-21**] 04:00 AM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-20**] 01:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-21**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 109 (97 - 118) bpm
   BP: 91/46(61) {85/42(55) - 114/61(70)} mmHg
   RR: 32 (22 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 84.5 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 7 (4 - 8)mmHg
   Total In:
                                                                  2,459 mL
                                                                    948 mL
   PO:
   TF:
                                                                    722 mL
                                                                    203 mL
   IVF:
                                                                    897 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  3,245 mL
                                                                    360 mL
   Urine:
                                                                  3,245 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -786 mL
                                                                    588 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   SpO2: 100%
   ABG: 7.44/56/106/36/11
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Well nourished, No acute distress
   HEENT: Normocephalic, PERRL, NG tube in right nares
   Cardiovascular: Irregularly irregular, normal S1, S2.  2/6 systolic
   murmur best heard at apex, radiating to axilla
   Respiratory / Chest: Scattered rhonchi and crackles anteriorly with
   diminished breath sounds at bases bilaterally
   Abdominal: Soft, Non-tender, Non-distended, No guarding or rebound,
   Bowel sounds present, Obese
   Peripheral Vascular: Radial and DP pulses palpable bilaterally
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, Left upper extremity without edema, Right upper extremity
   with 2+ edema
   Skin:  lower lip lesions crusted, without active bleeding
   Neurologic: Attentive, Follows commands, Responds to: Verbal stimuli,
   Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   659 K/uL
   8.7 g/dL
   124 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.4 mEq/L
   42 mg/dL
   110 mEq/L
   149 mEq/L
   27.9 %
   10.4 K/uL
         [image002.jpg]
                             [**2129-12-19**]  11:01 AM
                             [**2129-12-19**]  03:00 PM
                             [**2129-12-19**]  03:14 PM
                             [**2129-12-19**]  09:13 PM
                             [**2129-12-20**]  05:32 AM
                             [**2129-12-20**]  05:47 AM
                             [**2129-12-20**]  03:32 PM
                             [**2129-12-20**]  06:34 PM
                             [**2129-12-21**]  05:43 AM
                             [**2129-12-21**]  05:58 AM
   WBC
   10.9
   10.4
   10.4
   Hct
   26.9
   27.5
   27.9
   Plt
   560
   635
   659
   Cr
   0.9
   0.8
   0.7
   0.6
   TCO2
   33
   35
   36
   36
   40
   39
   Glucose
   117
   123
   145
   124
   Other labs: PT / PTT / INR:13.5/109.8/1.2
   Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Micro: none
   Imaging: CXR---from today: pending
   Carotid US: read pending
   Assessment and Plan
   83 y.o woman with chronic systolic CHF with 2 week history of
   generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for heart failure and new
   afib with RVR. She is improving after intubation requiring pressors and
   a marked leukocytosis, concerning for septic shock despite no positive
   cultures and a CT demonstrating diffuse lymphadenopathy with pulmonary
   nodules.  Patient was extubated on [**12-17**], doing better from respiratory
   stand point, but likely need MVR for full recovery.
   .
   # RESPIRATORY DISTRESS: Patient is improving from respiratory stand
   point, CXR improbing as well.  RR remains in mid 20
s to upper 30
s on
   3L O2 by NC with adequate oxygenation all day yesterday. Patient
   received Lasix 120mg IV x 1 yesterday with resulting net negative
   780cc.  ABG reveals a mix picture of respiratory acidosis and metabolic
   alkalosis, likely from hypoventilation and overdiuresis/contraction
   alkalosis.  Although pt is improving from the respiratory stand point,
   it is unclear how well she can get without MVR surgery.
   - f/u Csurg recs
   - start lasix gtt today
   - keep HOB elevated, I/O goal of -500cc-1L
   - daily CXR
   - follow ABGs and respiratory status
   - continue standing Atrovent nebs
   - Complete Abx (Meropenem, Doxy, Acyclovir) regimen, finishing up
   meropenem today
   - continue TF
   - patient will need S/S re-eval tomorrow.  Currently aspirating.
   .
   # METABOLIC ALKALOSIS:  This is most likely contraction alkalosis due
   to overdiuresis.  BUN/Cr ratio is way above 20. No vomiting and loss of
   hydrogen ions from GI system.  No insulin or hypokalemia leading to
   alkalosis either.  Curiously, creatinine has been flat and even
   down-trending despite aggressive diuresis and contraction alkalosis.
   - get urine Cl to see if the metabolic alkalosis is chloride-responsive
   (if Ucl <10, responsive, if >20, not responsive)
   - slow down on diuresis given likely contraction alkalosis, start lasix
   gtt
   - I/O goal of -500cc-1L
   - pm lytes
   .
   # HYPERNATREMIA:  Na climbing to 149 today.  Also likely due to
   overdiuresis. Free water deficit is calculated to be 2.9L.
   - continue free water flushes 200cc q6h
   - slow down on diuresis given likely contraction alkalosis, start lasix
   gtt
   - I/O goal of -500cc-1L
   - pm lytes
   - f/u on nutrition recs on less concentrated TF
   .
   #. Fluid overload: Anasarca [**1-10**] fluid imbalance (multifactorial:
   hypoalbuminemia/chronic sCHF/
leaky capillary syndrome
), continues to
   improve. Patient continues to diurese well on IV Lasix.  Also with
   mildly elevated serum Na and HCO3 that may represent a contraction
   alkalosis.
   -  Goal diuresis is -0.5-1.0L today. Will exercise caution to maintain
   CVP ~ 10 & regulate electrolytes today.
   -  Closely monitor electrolytes and renal function [**Hospital1 **]
   -  Daily CXR
   -  CVP goal >10
   -  MAP goal is 60-65
   .
   # PUMP/SEVERE MR: History of chronic systolic heart failure, and
   patient
s initial sx were consistent with failure (SOB, orthopnea,
   edema), but TTE on admission showed normal EF (>60%). Patient also with
   known MR [**First Name (Titles) 43**] [**Last Name (Titles) 10178**] tear at posterior leaflet of mitral valve, likely
   contributing to worsening MR which causes overestimation of EF. Repeat
   TTE on [**12-16**] was unchanged from prior, but jet of MR was
better
   appreciated
 per interpretation.  Per Csurgery, no more pre-op testing
   is necessary until pt makes the decision to go for surgery.  Currently,
   patient is still leaning toward no surgery, but this may change as
   patient feels better.
   - need to get OSH dental records
   - f/u on carotid US final read.  The prelim read showed 0% stenosis.
   - continue to discuss surgical option with patient
   - F/U additional Csurg recs
   .
   # RHYTHM: Pt goes in and out of Afib.  Fluid shifts may be responsible,
   but MR is the main contributing factor although LA is not significantly
   dilated given prominent regurgitant jet.  TSH normal.
   - Continue PO Amiodarone 200mg [**Hospital1 **], will change to amiodarone 200mg
   daily tomorrow
   - Holding nodal agents in the setting of hypotension, but can restart
   if bp
s tolerate
   - Continue heparin gtt for now
   .
   # Presumed septic shock & diffuse lymphadenopathy: WBC still trending
   down, today 10.4.  Thought to be [**1-10**] presumed infection and cardiogenic
   (acute MR, afib with RVR) insult.  Off pressors since [**12-16**]. CT scan
   demonstrated diffuse lymphadenopathy & pulmonary nodules.  Etiology may
   be infection, but aside from HSV positive lip swab, extensive
   infectious work-up has been negative to date.  ID felt presentation was
   unlikely to be infectious, but has improved on Abx. HIV not tested as
   consent could not be obtained.  Heme/Onc did not feel presentation was
   likely to represent lymphoma.
   - Meropenem 500mg TID, day 14/14,  Doxycycline 100mg q12H, day [**11-21**],
   Acyclovir 400mg TID, day [**6-17**]
   - continue to trend CBC
   .
   # DECONDITIONING: Patient has been in the hospital for 16 days,
   intubated from [**Date range (1) 10393**].
   - PT/OT
   - encourage regular limb movement in bed
   - s/s re-eval tomorrow
   - continue TF to gain nutrition and strength back
   .
   # ? Right LE DVT: Patient was found to have  a possible old DVT in the
   right posterior tibial veins (normal compression, but no appearance of
   flow) on LENI
s performed on [**12-8**].
   - continue heparin gtt (also for Afib)
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations, but MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA 81mg daily
   .
   # Anemia: Normocytic, normochromic with normal RDW. Fe studies c/w ACD
   s/p 2u pRBC
s.  B12 and folate normal.  Hct stable.
   - Trend HCT daily
   .
   # Glaucoma:
   - Continue home eye drops
   .
   # Hypothyroidism: TSH 3.3
   - Continue home Levothyroxine
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2129-12-21**] 01:14 AM 30 mL/hour
   Glycemic Control:  none
   Lines:
   Will get PICC line today and pull the central line out afterwards
   Arterial Line - [**2129-12-12**] 01:30 PM
   Multi Lumen - [**2129-12-12**] 04:00 PM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: none
   VAP:  none
   Communication:  Patient & patient
s daughter
   [**Name (NI) 129**] status: DNR/DNI
   Disposition: pending improvement of respiratory status/evaluation for
   cardiac surgery
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-22**] 10:10 ------

2129-12-22 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2129-12-21**] 07:30 PM
   - placed on Lasix gtt at 2.5-5
   - RN noted bloody phlegm, PTT re-checked, went down from 109.8 to 69.5.
   Later suction was normal color, no blood.  Hct stable in the pm.
   - PICC line attempted at bedside, was malpositioned.  PICC nurse
   recommended PICC placement by IR.
   - nutrition recs: changed the TF to boost glucose control
   - s/s re-eval: can have pleasure feeds of moisture puree and nectar
   thickened liquids, with 1:1 supervision...will come back to re-eval
   patient on [**Name (NI) 1583**]
   - pt wants to drink coffee frap with powder thickener mixed in.
   discussed with RN, ok to give.  daughter will bring in the drink.
   - pt wanted to leave because she is very tired. agreed to stay after
   being reassured that she will get sleeping meds tonight, and can get
   her coffee frap.
   - patient was given trazodone 50mg at 7pm.  sBP dropped to 70s soon
   afterwards, given 250cc boluses x 4 overnight. lasix gtt held. Also
   given tylenol x1.  slept better.  Daughter was very concerned about pt
   not sleeping.  Talked with daughter on the phone for over 1/2h.
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Acyclovir - [**2129-12-21**] 04:00 PM
   Meropenem - [**2129-12-21**] 08:58 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2129-12-21**] 10:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-22**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 96 (90 - 114) bpm
   BP: 81/41(53) {67/35(45) - 106/65(236)} mmHg
   RR: 20 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.7 kg (admission): 74.4 kg
   Height: 65 Inch
    CVP: 5 (5 - 7)mmHg
   Total In:
                                                                  3,080 mL
                                                                  1,131 mL
   PO:
   TF:
                                                                    802 mL
                                                                    296 mL
   IVF:
                                                                  1,178 mL
                                                                    545 mL
   Blood products:
   Total out:
                                                                  3,501 mL
                                                                    170 mL
   Urine:
                                                                  2,701 mL
                                                                    170 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                   -421 mL
                                                                    961 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.50/48/75/36/11
   Physical Examination
   General Appearance: Well nourished, No acute distress
   HEENT: Normocephalic, PERRL, NG tube in right nares
   Cardiovascular: Irregularly irregular, normal S1, S2.  2/6 systolic
   murmur best heard at apex, radiating to axilla
   Respiratory / Chest: Scattered rhonchi and crackles anteriorly with
   diminished breath sounds at bases bilaterally
   Abdominal: Soft, Non-tender, Non-distended, No guarding or rebound,
   Bowel sounds present, Obese
   Peripheral Vascular: Radial and DP pulses palpable bilaterally
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, Left upper extremity without edema, Right upper extremity
   with 2+ edema
   Skin:  lower lip lesions crusted, without active bleeding
   Neurologic: Attentive, Follows commands, Responds to: Verbal stimuli,
   Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   597 K/uL
   8.0 g/dL
   127 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.1 mEq/L
   40 mg/dL
   109 mEq/L
   149 mEq/L
   25.5 %
   12.5 K/uL
        [image002.jpg]
                             [**2129-12-20**]  06:34 PM
                             [**2129-12-21**]  05:43 AM
                             [**2129-12-21**]  05:58 AM
                             [**2129-12-21**]  03:00 PM
                             [**2129-12-21**]  03:07 PM
                             [**2129-12-21**]  03:14 PM
                             [**2129-12-21**]  05:06 PM
                             [**2129-12-22**]  02:39 AM
                             [**2129-12-22**]  03:51 AM
                             [**2129-12-22**]  05:02 AM
   WBC
   10.4
   10.4
   11.6
   12.5
   12.0
   12.5
   Hct
   27.5
   27.9
   29.2
   26.8
   24.5
   25.5
   Plt
   635
   659
   630
   621
   557
   597
   Cr
   0.7
   0.6
   0.6
   0.6
   TCO2
   39
   41
   39
   Glucose
   145
   124
   132
   127
   Other labs:
   PT / PTT / INR:13.0/65.0/1.1
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Micro: none
   Imaging: no CXR today
   Assessment and Plan
   83 y.o woman with chronic systolic CHF with 2 week history of
   generalized weakness and shortness of breath, recently admitted to
   [**Hospital3 **] now transferred here to [**Hospital1 1**] for heart failure and new
   afib with RVR. She is improving after intubation requiring pressors and
   a marked leukocytosis, concerning for septic shock despite no positive
   cultures and a CT demonstrating diffuse lymphadenopathy with pulmonary
   nodules.  Patient was extubated on [**12-17**], doing better from respiratory
   stand point, but likely need MVR for full recovery.
   .
   # RESPIRATORY DISTRESS: Patient is improving from respiratory stand
   point, CXR improving as well.  RR remains in mid 20
s to upper 30
s on
   3-4L O2 by NC with adequate oxygen saturation. Patient received Lasix
   bolus (80mg) plus gtt at 2.5mg/hr with good UOP.  However, Lasix gtt
   was held since yesterday evening due to hypotension in the setting of
   getting 50mg trazodone.  ABG reveals metabolic alkalosis, likely
   contraction alkalosis.  Although pt is improving from the respiratory
   stand point, it is unclear how well she can get without MVR surgery.
   - restart lasix gtt today at 10mg/hr.  Assess at noon time today, will
   give Lasix bolus 80mg if UOP <80cc/hr.  Goal I/O -500cc today.
   - keep HOB elevated
   - continue standing Atrovent nebs
   - Complete Abx (Doxy, Acyclovir) regimen, meropenem d/c
d today
   - continue TF (boost glucose control)
   - per S/S, can have pleasure feeds in moisture purees and nectar
   thickened liquids, but main source of nutrition continues to be TF
   - follow ABGs and respiratory status
   - f/u Csurg recs, if any
   .
   # INSOMNIA: Patient received 50mg trazodone last night at 7pm, was up
   most of the time until 3am.  Daughter and patient herself were very
   concerned about the fact that she was not getting enough sleep.  Other
   meds that have been considered include remeron, Ativan, ambien,
   atypical antipsychotics or lower dose trazodone
   - give remeron 15mg and Ativan prn for sleep tonight.
   .
   # HYPOTENSION:  Patient was hypotensive after trazodone was given.  The
   most likely etiology was medication effect. 1-10% patients develop
   hypotension after receiving trazodone.  Other etiologies were
   unlikely.  Patient has been on heparin, so PE is unlikely.  ACS
   unlikely as patient asymptomatic, and patient has no history of ACS.
   Her coronary artery anatomy is unknown, but her plaque burden in
   carotid arteries is close to 0.  Pneumothorax was not seen in CXR after
   PICC was placed, and she had bilateral breath sounds, and was satting
   well.
   - give remeron and low dose ativan for sleep
   .
   # METABOLIC ALKALOSIS:  This is most likely due to Lasix diuresis and
   contraction alkalosis.  BUN/Cr ratio is way above 20. Curiously,
   creatinine has been flat and even down-trending despite aggressive
   diuresis and contraction alkalosis.  FeUrea: 29.7, Urine osm 563, serum
   osm: 321, urine Na 20,  these numbers indicate patient is not terribly
   dry.  Urine Cl: 24 (>20), indicating less Cl-responsiveness.  No other
   etiologies can explain this metabolic alkalosi, patient has no vomiting
   and loss of hydrogen ions from GI system, and no insulin or hypokalemia
   leading to alkalosis either.
   - restart lasix gtt today at 10mg/hr.  Assess at noon time today, will
   give Lasix bolus 80mg if UOP <80cc/hr.  goal I/O -500cc today.
   - pm lytes
   .
   # HYPERNATREMIA:  Na stable.  TF was changed to less concentrated boost
   glucose control.  Hypernatremia is likely due to diuresis. Free water
   deficit continues to be 2.9L.
   - continue free water flushes 250cc q6h
   - restart lasix gtt today at 10mg/hr.  Assess at noon time today, will
   give Lasix bolus 80mg if UOP <80cc/hr.  Goal I/O -500cc today.
   - pm lytes
   .
   #. FLUID OVERLOAD: Anasarca [**1-10**] fluid imbalance (multifactorial:
   hypoalbuminemia/chronic sCHF/
leaky capillary syndrome
), continues to
   improve. Patient continues to diurese well on IV Lasix gtt.  Also with
   mildly elevated serum Na and HCO3 that may represent a Lasix effect and
   contraction alkalosis.
   -  restart lasix gtt today at 10mg/hr.  Assess at noon time today, will
   give Lasix bolus 80mg if UOP <80cc/hr.  goal I/O -500cc today.
   -  Closely monitor electrolytes and renal function [**Hospital1 **]
   -  Daily CXR
   -  CVP goal >10
   -  MAP goal is 60-65
   .
   # DECONDITIONING: Patient has been in the hospital for 17 days,
   intubated from [**Date range (1) 10393**].
   - continue PT/OT
   - encourage regular limb movement in bed
   - continue TF to gain nutrition and strength back
   .
   # Anemia/Hct drop: Hct dropped to 27.9 to 25.5 over 24 hours.  Part of
   this is due to hemodilution given the 1L NS she received overnight due
   to hypotension.  Also PICC line was placed yesterday which could have
   caused some blood loss.   Normocytic, normochromic with normal RDW. Fe
   studies c/w ACD s/p 2u pRBC
s during the earlier part of this hospital
   stay.  B12 and folate normal.
   - guaiac all stools
   - send for c.diff
   - get pm hct, goal hct 21
   .
   # LEUKOCYTOSIS: WBC bumped up from a nadir of 10.4 yesterday ([**2129-12-21**])
   to 12.5 today.  Patient is afebrile, no sign of localized infection.
   Her peak WBC during this admission was 49.1.  This was thought to be
   [**1-10**] presumed infection and cardiogenic (acute MR, afib with RVR)
   insult.  Off pressors since [**12-16**]. CT scan demonstrated diffuse
   lymphadenopathy & pulmonary nodules.  Etiology may be infection, but
   aside from HSV positive lip swab, extensive infectious work-up has been
   negative to date.  ID felt presentation was unlikely to be infectious,
   but has improved on Abx. HIV not tested as consent could not be
   obtained.  Heme/Onc did not feel presentation was likely to represent
   lymphoma.
   - meropenem d/c
d today
   - send c.diff
   - Doxycycline 100mg q12H, day 13/14, Acyclovir 400mg TID, day [**7-18**]
   - if fever, would culture and get CXR.  Would start vanc and flagyl,
   pull out CVL if febrile.
   - continue to trend CBC
   .
   # PUMP/SEVERE MR: History of chronic systolic heart failure, and
   patient
s initial sx were consistent with failure (SOB, orthopnea,
   edema), but TTE on admission showed normal EF (>60%). Patient also with
   known MR [**First Name (Titles) 43**] [**Last Name (Titles) 10178**] tear at posterior leaflet of mitral valve, likely
   contributing to worsening MR which causes overestimation of EF. Repeat
   TTE on [**12-16**] was unchanged from prior, but jet of MR was
better
   appreciated
 per interpretation.  Per Csurgery, no more pre-op testing
   is necessary until pt makes the decision to go for surgery.  Currently,
   patient does not want surgery currently, but this may change as patient
   feels better.
   - continue to discuss surgical option with patient when she feels
   better
   - F/U Csurg recs, if any
   - need to get OSH dental records if pt decides to go for MVR
   - carotid US showed 0% stenosis
   .
   # RHYTHM: Pt goes in and out of Afib.  Fluid shifts may be responsible,
   but MR is the main contributing factor although LA is not significantly
   dilated given prominent regurgitant jet.  TSH normal.
   - change amiodarone from 200mg [**Hospital1 **] to 200mg daily
   - Holding nodal agents in the setting of hypotension, but can restart
   if bp
s tolerate
   - Continue heparin gtt for now
   - start coumadin 2.5mg daily
   .
   # ? Right LE DVT: Patient was found to have a possible old DVT in the
   right posterior tibial veins (normal compression, but no appearance of
   flow) on LENI
s performed on [**12-8**].
   - continue heparin gtt (also for Afib)
   - start coumadin 2.5mg daily
   .
   # CORONARIES: Patient has unknown anatomy as she has never had a prior
   cardiac catherizations, but MI is unlikely given lack of any EKG
   changes and negative troponins.
   - continue ASA 81mg daily
   .
   # Glaucoma:
   - Continue home eye drops
   .
   # Hypothyroidism: TSH 3.3
   - Continue home Levothyroxine
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2129-12-22**] 04:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Will talk to PICC team on the reason why the current PICC cannot be
   used or pulled back.  If PICC not to be used, will send pt to IR for
   PICC placement once patient is stable enough to go down and is able to
   lie flat.  Also consider having PIVs only.
   Arterial Line - [**2129-12-12**] 01:30 PM
   Multi Lumen - [**2129-12-12**] 04:00 PM
   PICC Line - [**2129-12-21**] 07:30 PM
   Prophylaxis:
   DVT: Heparin gtt, coumadin daily
   Stress ulcer: none
   VAP:  none
   Communication:  Patient & patient
s daughter
   [**Name (NI) 129**] status: DNR/DNI
   Disposition: pending improvement of respiratory status
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2129-12-22**] 10:33 ------